2129-03-05 08:53:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure secondary to influenza and PCP.
   [**Name10 (NameIs) 110**] renal failure, atrial fibrillation.
   24 Hour Events:
   DFA positive,sputum with PCP and GPC in pairs.  Started on Bactrim with
   prednisone taper.  Became anuric, no response to 750cc overall bolus.
   A-fib developed, controlled with metoprolol 50mg po tid (pt had been
   discharged on metoprolol 75mg TID). No need for anticoagulation at this
   time.
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-3-4**] 10:14 AM
   Bactrim (SMX/TMP) - [**2129-3-4**] 07:23 PM
   Azithromycin - [**2129-3-4**] 09:00 PM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-3-4**] 09:00 AM
   Furosemide (Lasix) - [**2129-3-4**] 08:12 PM
   Midazolam (Versed) - [**2129-3-5**] 04:25 AM
   Fentanyl - [**2129-3-5**] 04:25 AM
   Metoprolol - [**2129-3-5**] 05:11 AM
   Heparin Sodium (Prophylaxis) - [**2129-3-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-5**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 127 (69 - 130) bpm
   BP: 103/56(71){103/51(71) - 158/77(107)} mmHg
   RR: 23 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.6 kg (admission): 87.6 kg
   Height: 68 Inch
             Total In:
                                                                  2,255 mL
                                                                  1,536 mL
   PO:
             TF:
   IVF:
                                                                  2,205 mL
                                                                  1,206 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                     23 mL
   Urine:
                                                                  1,040 mL
                                                                     23 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,215 mL
                                                                  1,513 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 600) mL
   RR (Set): 24
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.22/41/171/16/-10
   Ve: 9.2 L/min
   PaO2 / FiO2: 428
   Physical Examination
   Intubated, sedated, withdraws to pain
   CV: RRR, distant heart sounds
   Pulm:  Crackles R lateral lung fields, no wheezing, distant breath
   sounds
   Abd:  +BS, soft, protuberent
   Ext:  Cool to touch, no edema
   Labs / Radiology
   172 K/uL
   8.3 g/dL
   117 mg/dL
   4.9 mg/dL
   16 mEq/L
   4.3 mEq/L
   58 mg/dL
   107 mEq/L
   138 mEq/L
   24.9 %
   4.8 K/uL
        [image002.jpg]
                             [**2129-3-4**]  04:47 AM
                             [**2129-3-4**]  05:00 AM
                             [**2129-3-4**]  09:03 AM
                             [**2129-3-4**]  04:39 PM
                             [**2129-3-4**]  04:58 PM
                             [**2129-3-5**]  12:38 AM
                             [**2129-3-5**]  05:05 AM
                             [**2129-3-5**]  06:35 AM
   WBC
   3.1
   4.8
   Hct
   25.4
   24.9
   Plt
   181
   172
   Cr
   3.8
   4.3
   4.9
   TropT
   0.04
   0.03
   TCO2
   21
   20
   20
   18
   18
   Glucose
   111
   81
   117
   Other labs: PT / PTT / INR:14.7/44.0/1.3, CK / CKMB /
   Troponin-T:91/4/0.03, ALT / AST:22/33, Alk Phos / T Bili:110/0.2,
   Amylase / Lipase:63/42, Differential-Neuts:79.0 %, Band:10.0 %,
   Lymph:8.0 %, Mono:3.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:318 IU/L,
   Ca++:6.9 mg/dL, Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   68 yo M w/PMHx sx for multiple myeloma who in respiratory distress
   secondary to influenza, PCP pneumonia and possible worsening of heart
   failure.  Also with acute renal failure and A-fib.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Respiratory failure secondary to PCP and influenza.  CXR with patchy
   opacities c/w multilobar PNA, unclear if there is a pulmonary edema
   component as patient did not respond to lasix 40mng and has been anuric
   since midnight despite bolus
   -Sputum positive for PCP--[**Name10 (NameIs) **] bactrim and steriods
   -Tamiflu for influenza
   -on Vancomycin and ceftiraxone for GPC
s in pairs in sputum
   -Survaillence cultures P
   -O2 sats good, most recent ABG: 7.22/41/171
   -Albuterol/ipratropium nebs
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   In part [**2-26**] to MM with new baseline Cr of 3, now anuric since midnight,
   unresponsive to fluid.  Received bactrim for PCP last night, though per
   renal, bactrim will not cause such an acute drop in UOP in spite of
   rising Cr.
   -will obtain urine lytes and urine sediment
   -renal u/s and dopplers
   -renal c/s
   -may need HD
   -[**Hospital1 7**] lytes
   -phos binder
METABOLIC ACIDOSIS
   Due to acute renal failure
   -treat as above
ATRIAL FIBRILLATION
   EKG with rapid a-fib and RVR, no signs of ischemia.  Echo in [**2127**]
   showed [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 111**] which could predispose patient to A-fib.  Responsive
   to beta block, unresponsive to fluid bolus. New a-fib during last
   admission that responded to beta blockade, patient was discharged on
   medication on metoprolol 75mg TID without anticoagulation.
   -In NSR on metorpolol 50tid
   -no need for anticoagulation at this time, to be addressed as out
   patient
   -Echo for today
   -Cycle CE to rule out ischemic event resulting in arrythmia, CE on
   admission stable (trop--0.03, 0.04, 0.03)
 HYPERTENSION, BENIGN
   Resolved, continue to monitor
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   Patient with recently diagnosed progression of MGUS to myeloma.
   Currently with low calcium, high uric acid and LDH levels.
   -Oncology following, appreciate recs
ANEMIA
   Stable at baseline. From MM.
   ICU Care
   Nutrition: Will order tube feeds to be given after bowel movement,
   nutrition consult
   Comments: Nurtition consult for tube fee recs
   Glycemic Control:  Blood sugar well controlled
   Lines:
   16 Gauge - [**2129-3-4**] 04:51 AM
   20 Gauge - [**2129-3-4**] 04:53 AM
   18 Gauge - [**2129-3-4**] 04:54 AM
   Arterial Line - [**2129-3-4**] 08:16 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Left message for children regarding new infection, have
   not been contact[**Name (NI) **] by them, will need fmaily meeting today
   Code status: Full code
   Disposition: ICU

2129-03-05 14:33:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure secondary to influenza and PCP.
   [**Name10 (NameIs) 110**] renal failure, atrial fibrillation.
   24 Hour Events:
   Started on Bactrim for PCP as well as prednisone taper.
   Positive for influenza.
   Became anuric, no response to 750cc overall bolus.  A-fib developed,
   controlled with metoprolol 50mg po tid (pt had been discharged on
   metoprolol 75mg TID). No need for anticoagulation at this time.
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-3-4**] 10:14 AM
   Bactrim (SMX/TMP) - [**2129-3-4**] 07:23 PM
   Azithromycin - [**2129-3-4**] 09:00 PM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-3-4**] 09:00 AM
   Furosemide (Lasix) - [**2129-3-4**] 08:12 PM
   Midazolam (Versed) - [**2129-3-5**] 04:25 AM
   Fentanyl - [**2129-3-5**] 04:25 AM
   Metoprolol - [**2129-3-5**] 05:11 AM
   Heparin Sodium (Prophylaxis) - [**2129-3-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-5**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 127 (69 - 130) bpm
   BP: 103/56(71){103/51(71) - 158/77(107)} mmHg
   RR: 23 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.6 kg (admission): 87.6 kg
   Height: 68 Inch
             Total In:
                                                                  2,255 mL
                                                                  1,536 mL
   PO:
             TF:
   IVF:
                                                                  2,205 mL
                                                                  1,206 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                     23 mL
   Urine:
                                                                  1,040 mL
                                                                     23 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,215 mL
                                                                  1,513 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 600) mL
   RR (Set): 24
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.22/41/171/16/-10
   Ve: 9.2 L/min
   PaO2 / FiO2: 428
   Physical Examination
   Intubated, sedated, withdraws to pain
   CV: RRR, distant heart sounds
   Pulm:  Crackles R lateral lung fields, no wheezing, distant breath
   sounds
   Abd:  +BS, soft, protuberent
   Ext:  Cool to touch, no edema
   Labs / Radiology
   172 K/uL
   8.3 g/dL
   117 mg/dL
   4.9 mg/dL
   16 mEq/L
   4.3 mEq/L
   58 mg/dL
   107 mEq/L
   138 mEq/L
   24.9 %
   4.8 K/uL
        [image002.jpg]
                             [**2129-3-4**]  04:47 AM
                             [**2129-3-4**]  05:00 AM
                             [**2129-3-4**]  09:03 AM
                             [**2129-3-4**]  04:39 PM
                             [**2129-3-4**]  04:58 PM
                             [**2129-3-5**]  12:38 AM
                             [**2129-3-5**]  05:05 AM
                             [**2129-3-5**]  06:35 AM
   WBC
   3.1
   4.8
   Hct
   25.4
   24.9
   Plt
   181
   172
   Cr
   3.8
   4.3
   4.9
   TropT
   0.04
   0.03
   TCO2
   21
   20
   20
   18
   18
   Glucose
   111
   81
   117
   Other labs: PT / PTT / INR:14.7/44.0/1.3, CK / CKMB /
   Troponin-T:91/4/0.03, ALT / AST:22/33, Alk Phos / T Bili:110/0.2,
   Amylase / Lipase:63/42, Differential-Neuts:79.0 %, Band:10.0 %,
   Lymph:8.0 %, Mono:3.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:318 IU/L,
   Ca++:6.9 mg/dL, Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   68 yo M w/PMHx of multiple myeloma who presented in respiratory
   distress secondary to influenza, PCP pneumonia and possible worsening
   of heart failure.  Also with acute renal failure and A-fib.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Respiratory failure secondary to PCP and influenza.  CXR with patchy
   opacities c/w multilobar PNA, unclear if there is a pulmonary edema
   component as patient did not respond to lasix 40mg and has been anuric
   since midnight despite bolus
   -Sputum positive for PCP--[**Name10 (NameIs) **] bactrim and steriods
   -Tamiflu for influenza
   -on Vancomycin, ceftriaxone, and azithromycin for possible bacterial
   PNA; sputum with GPCs
   -will continue to f/u cultures
   -O2 sats good, most recent ABG: 7.22/41/171
   -Albuterol/ipratropium nebs
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) on Chronic Renal
   Insufficiency
   CRI thought to be due to multiple myeloma with baseline of 3.5; acute
   renal failure in setting of infection.  Now anuric since midnight,
   unresponsive to fluid.  Received bactrim for PCP last night, though per
   renal, bactrim will not cause such an acute drop in UOP in spite of
   rising Cr.
   -will obtain urine lytes and urine sediment
   -renal u/s
   -appreciate renal recs
   -[**Hospital1 7**] lytes
   - avoid renal toxins
METABOLIC ACIDOSIS
   Due to acute renal failure
   -monitor for now
ATRIAL FIBRILLATION
   EKG with rapid a-fib and RVR, no signs of ischemia.  Echo in [**2127**]
   showed [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 111**] which could predispose patient to A-fib.  Responsive
   to beta blockers, unresponsive to fluid bolus. New a-fib during last
   admission that responded to beta blockade, patient was discharged on
   metoprolol 75mg TID without anticoagulation.
   -In NSR on metoprolol 50 tid; may give lower dose if blood pressures do
   not tolerate full dose
   -no need for anticoagulation at this time, to be addressed as
   outpatient
   -Echo for today
   -Cycle CE to rule out ischemic event resulting in arrythmia, CE on
   admission stable (trop--0.03, 0.04, 0.03)
 HYPERTENSION, BENIGN
   Resolved, continue to monitor
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   Patient with recently diagnosed progression of MGUS to myeloma.
   Currently with low calcium, high uric acid and LDH levels.
   -Oncology following, appreciate recs
ANEMIA
   Stable at baseline. From MM.
   ICU Care
   Nutrition: tube feed recs per nutrition
   Glycemic Control:  Blood sugar well controlled
   Lines:
   16 Gauge - [**2129-3-4**] 04:51 AM
   20 Gauge - [**2129-3-4**] 04:53 AM
   18 Gauge - [**2129-3-4**] 04:54 AM
   Arterial Line - [**2129-3-4**] 08:16 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Spoke with family about poor prognosis; they confirmed
   full code for now
   Code status: Full code
   Disposition: ICU
   Note written by [**First Name4 (NamePattern1) 113**] [**Last Name (NamePattern1) 114**], MS IV and edited by [**First Name8 (NamePattern2) 115**]
   [**Last Name (NamePattern1) 116**], MD.  I have seen patient and agree with plan of care as
   above.

2129-03-06 08:08:00 Physician Resident Progress Note
Chief Complaint: 68M with newly diagnosed myeloma admitted with
   respiratory failure, has influenza
   24 Hour Events:
   Continued to be anuric with rising Cr
   Renal ultrasound--unremarkable
   Seen by renal--may need dialysis [**3-6**] if stays anuric
   Deferred CVL given that pt is likely to get dialysis line
   Episodes of hypotension responsive to IV fluids
   OG tube put to suction b/c of distention and concern for obstruction on
   KUB; large amount of liquid brown-green output immediately
   Attempted trial of PS, but kept fighting vent and needed to be put back
   on AC with increased sedation
   Spoke with family, who were informed of poor prognosis but are still
   adjusting to rapid decompensation; pt is FULL CODE
   Held coumadin, will need to be started on heparin gtt once INR no
   longer supratherapeutic
   Free Ca was low; repleted with Ca gluconate BEFORE learning from
   pharmacy that Ca gluconate contraindicated in patient on ceftriaxone
   b/c of concern for precipitates in lungs/kidneys (apparently there are
   no case reports in adults)
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-3-4**] 10:14 AM
   Vancomycin - [**2129-3-5**] 03:08 PM
   Ceftriaxone - [**2129-3-5**] 04:13 PM
   Bactrim (SMX/TMP) - [**2129-3-5**] 08:21 PM
   Azithromycin - [**2129-3-5**] 08:36 PM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 250.1 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-3-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2129-3-5**] 08:00 AM
   Other medications:
   Oseltamivir 75mg PO daily
   Prednisone 40 daily
   Bactrim 240mg IV daily
   Vancomycin 1g IV q48
   Azithromycin 250mg IV daily
   Ceftriaxone 1g IV daily
   ASA 325 daily, Plavix 75 daily
   Metoprolol 50 TID, Tricor
   Allopurinol, Famotidine, ipratropium and albuterol
   Heparin SQ
   Flowsheet Data as of  [**2129-3-6**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.8
C (98.2
   HR: 83 (70 - 131) bpm
   BP: 95/41(57){87/40(53) - 118/57(72)} mmHg
   RR: 26 (18 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.7 kg (admission): 87.6 kg
   Height: 68 Inch
             Total In:
                                                                  5,114 mL
                                                                    433 mL
   PO:
             TF:
   IVF:
                                                                  4,654 mL
                                                                    403 mL
   Blood products:
   Total out:
                                                                    384 mL
                                                                      0 mL
   Urine:
                                                                     34 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  4,730 mL
                                                                    433 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (450 - 550) mL
   Vt (Spontaneous): 809 (809 - 809) mL
   PS : 8 cmH2O
   RR (Set): 24
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.21/38/89.[**Numeric Identifier 126**]/14/-12
   Ve: 14.7 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   CBC 5.7>7.0/21.9<164
   Chem 134/4.2/105/13/23/6.9<123 Ca 6.7, Mg 2.3, Phos 5.2
   Vanco 24.6
   INR 1.1 PTT 41.4
   ABG 7.21 38/89/16
   Micro
   [**3-4**] urine negative
   2/8,[**3-5**] blood cx NGTD
   [**3-4**] sputum >25polys 1+GPC in pairs, cx pending, PCP ** positive **,
   fungal cx NGTD, AFB smear negative cx NGTD
   [**3-4**] nasopharyngeal aspirate ** positive ** for Influenza B
   [**3-4**] urine legionella ag negative
   [**3-5**] blood cx pending
   CXR read pending: some improvement in R sided patchy opacities
   [**2129-3-4**]  04:58 PM
                             [**2129-3-5**]  12:38 AM
                             [**2129-3-5**]  05:05 AM
                             [**2129-3-5**]  06:35 AM
                             [**2129-3-5**]  04:05 PM
                             [**2129-3-5**]  05:21 PM
                             [**2129-3-5**]  06:32 PM
                             [**2129-3-5**]  06:35 PM
                             [**2129-3-5**]  10:13 PM
                             [**2129-3-6**]  06:05 AM
   WBC
   4.8
   Hct
   24.9
   Plt
   172
   Cr
   4.9
   5.9
   TropT
   0.03
   0.13
   TCO2
   20
   18
   18
   19
   18
   18
   17
   16
   Glucose
   117
   117
   Other labs: PT / PTT / INR:14.7/44.0/1.3, CK / CKMB /
   Troponin-T:85/6/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.2,
   Amylase / Lipase:63/42, Differential-Neuts:79.0 %, Band:10.0 %,
   Lymph:8.0 %, Mono:3.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:318 IU/L,
   Ca++:6.9 mg/dL, Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   P/F decreasing, c/w acute lung injury. Continue current vent settings
   recheck ABG this AM.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Suspect pulmonary source, also consider GI source given abdominal
   distension (though abdomen soft, benign appearing today)
   BPs borderline only short-lived response to IVF boluses. Adding
   neosynephrine peripherally until central access in place.
   Given renal failure can
t follow urine output. Would place central line
   to follow CVP.
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
   Continue ceftriaxone,azithromycin,vancomycin given GPCs on gram.
   Consider D/C azithromycin. Vanc trough elevated today
 recheck trough
   in AM. Follow up cultures, reculture if febrile.
 PJP
   Continue bactrim, steroids. ID recs appreciated.
 Anemia
   Hct decreased today, suspect reflects IVF resuscitation. However will
   check hemolysis labs as well. Repeat PM Hct, guiac stools. Transfuse
   Hb>7.
 h/o Atrial fibrillation
   In SR currently, beta blocker held in setting of borderline BP.
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   Onc recs appreciated. Consider IVIG.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Etiology uncertain. FeUrea 13% c/w pre-renal state. Rebolus and assess
   Cr, urine output response. No evidence of obstruction, negative urine
   eos make interstitial nephritis less likely.  No significant
   hypotensive episodes documented prior to yesterday making ATN less
   likely. Renal dose meds. Nephrology recs appreciated. Repeat PM lytes.
   ICU Care
   Nutrition: NPO for now ?tube feeds
   Glycemic Control:  Regular insulin sliding scale, follow sugars today
   consider insulin drip
   Lines:
   16 Gauge - [**2129-3-4**] 04:51 AM
   20 Gauge - [**2129-3-4**] 04:53 AM
   18 Gauge - [**2129-3-4**] 04:54 AM
   Arterial Line - [**2129-3-4**] 08:16 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Completing 14d course of oseltamivir for influenza B
   ------ Protected Section Addendum Entered By:[**First Name4 (NamePattern1) 129**] [**Last Name (NamePattern1) 130**], MD
   on:[**2129-3-7**] 10:14 ------

2129-03-06 10:24:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2129-3-6**] 05:43 AM
   Worsening hemodynamics, worsening oxygenation; needs dialysis via CVVH
   and management for likely septic shock
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-3-4**] 10:14 AM
   Vancomycin - [**2129-3-5**] 03:08 PM
   Ceftriaxone - [**2129-3-5**] 04:13 PM
   Azithromycin - [**2129-3-5**] 08:36 PM
   Bactrim (SMX/TMP) - [**2129-3-6**] 08:30 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 250.1 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-3-6**] 08:51 AM
   Other medications:
   Famotidine, SQ Heparin, Tricor, Folate, Plavix, ASA, Atrovent,
   Albuterol, TAMIFLU, Prednisone, Lopressor on hold, AZITHROMYCIN,
   BACTRIM, CTX, VANCOMYCIN
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-6**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.9
C (98.4
   HR: 76 (70 - 86) bpm
   BP: 91/39(54){87/39(53) - 118/51(69)} mmHg
   RR: 27 (18 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.7 kg (admission): 87.6 kg
   Height: 68 Inch
             Total In:
                                                                  5,114 mL
                                                                  1,519 mL
   PO:
             TF:
   IVF:
                                                                  4,654 mL
                                                                  1,489 mL
   Blood products:
   Total out:
                                                                    384 mL
                                                                      0 mL
   Urine:
                                                                     34 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  4,730 mL
                                                                  1,519 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   Vt (Spontaneous): 809 (809 - 809) mL
   PS : 8 cmH2O
   RR (Set): 24
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.21/38/89.[**Numeric Identifier 126**]/13/-12
   Ve: 14.7 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , No(t) Diminished: , Rhonchorous: )
   Abdominal: Soft, No(t) Bowel sounds present, Distended, hypoactive
   bowel sounds
   Extremities: Right: 3+, Left: 3+
   Neurologic: Responds noxious stimuli
   Labs / Radiology
   7.0 g/dL
   164 K/uL
   125 mg/dL
   6.9 mg/dL
   13 mEq/L
   4.2 mEq/L
   73 mg/dL
   105 mEq/L
   134 mEq/L
   21.9 %
   5.7 K/uL
        [image002.jpg]
                             [**2129-3-5**]  12:38 AM
                             [**2129-3-5**]  05:05 AM
                             [**2129-3-5**]  06:35 AM
                             [**2129-3-5**]  04:05 PM
                             [**2129-3-5**]  05:21 PM
                             [**2129-3-5**]  06:32 PM
                             [**2129-3-5**]  06:35 PM
                             [**2129-3-5**]  10:13 PM
                             [**2129-3-6**]  06:05 AM
                             [**2129-3-6**]  08:18 AM
   WBC
   4.8
   5.7
   Hct
   24.9
   21.9
   Plt
   172
   164
   Cr
   4.9
   5.9
   6.9
   TropT
   0.03
   0.13
   TCO2
   18
   18
   19
   18
   18
   17
   16
   Glucose
   117
   117
   125
   Other labs: PT / PTT / INR:13.0/41.4/1.1, CK / CKMB /
   Troponin-T:85/6/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.2,
   Amylase / Lipase:63/42, Differential-Neuts:79.0 %, Band:10.0 %,
   Lymph:8.0 %, Mono:3.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:160 IU/L,
   Ca++:6.7 mg/dL, Mg++:2.3 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): continue mechanical
   ventilation, increase PEEP if oxygenation worsen; dialysis and pressors
   to get some fluid off; ARDS-net ventilation
 SEPSIS WITHOUT ORGAN DYSFUNCTION: CVC placement today, follow CVP and
   MAP, ScvO2, cont abx but would change CTX to anti-pseudomonal
   penicillin and add antifungal, adjust abx for CVVH
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP): abx covering
   influenza, PCP,  [**Name10 (NameIs) 117**] with new Strep pneumo (albeit sparse) and added
   anti pseudomonal coverage. In discussion with ID in light of
   ddecompsenation will add empiric Rx for antifungals. Will pursue
   addition of IVIG for immune support
 ANEMIA: likely fluid-related, getting 1 u PRBC,follow PM hct and
   hemolysis labs today
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM): no interventions at
   this time
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): CVVH to start today
 ability to take off fluid will be limited by hemodynamics
 ATRIAL FIB: beta-blocker on hold, if worsens w/ Levophed will use
   Neosynephrine; no systemic anti-coagulation w/ multiple procedures and
   instability
 GI/FEN: NGT to suction for decompression
 ACCESS: CVC placement today
   ICU Care
   Nutrition: TFs
   Glycemic Control:  CZI this afternoon if unable to control
   Lines: new right SC this AM
   16 Gauge - [**2129-3-4**] 04:51 AM
   20 Gauge - [**2129-3-4**] 04:53 AM
   18 Gauge - [**2129-3-4**] 04:54 AM
   Arterial Line - [**2129-3-4**] 08:16 AM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: PPI
   VAP: HOB greater than 30, chlorhex rinses
   Comments:
   Communication:  Comments: needs family meeting to discuss overall poor
   prognosis
   Code status: Full code
   Disposition : ICU
   Total time spent: 40

2129-03-07 07:15:00 Physician Resident Progress Note
Chief Complaint: 60M with myeloma admitted with respiratory distress
   found to have influenza and PCP
   24 Hour Events:
   Femoral dialysis line placed by renal, started CVVH
   Subclavian central line placed
   Sputum with sparse pneumococcus, continued broad spectrum antibiotics
   (changing ceftriaxone to cefepime) and in addition started ambisome
   Borderline BPs yesterday AM on levophed briefly
   Transfused 1unit PRBCs
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Antimicrobials:
   Oseltamivir 75mg PO BID
   Cefepime 2g IV daily
   Bactrim 240mg IV q6h
   Vancomycin 1gIV q48
   Azithromycin 500mg IV daily
   Ambisome 250mg IV q48
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 400 mcg/hour
   Other medications:
   Methylprednisolone 60mg IV daily
   [** 131**], tricor
   Allopurinol, atrovent, albuterol prn,
   insulin SS
   Flowsheet Data as of  [**2129-3-7**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36
C (96.8
   HR: 64 (64 - 91) bpm
   BP: 119/47(69){88/36(52) - 145/61(87)} mmHg
   RR: 25 (24 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
    CVP: 16 (13 - 19)mmHg
   Total In:
                                                                  5,319 mL
                                                                  1,676 mL
   PO:
   TF:
   IVF:
                                                                  4,914 mL
                                                                  1,626 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,833 mL
                                                                  1,965 mL
   Urine:
                                                                     34 mL
                                                                      6 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,486 mL
                                                                   -287 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.31/36/103/16/-7        [**3-6**] SvO2 87%
   Ve: 15.3 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, OG tube draining
   dark liquid
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   115 K/uL
   7.6 g/dL
   124 mg/dL
   5.8 mg/dL
   16 mEq/L
   4.0 mEq/L
   58 mg/dL
   101 mEq/L
   131 mEq/L
   21.9 %
   2.6 K/uL
        [image002.jpg]
   Vancomycin trough 15.6
   CXR official read pending, increased lung markings hila increased
   prominence
   KUB official read pending, small and large bowel dilated suggestive of
   ileus
   Micro
   2/8,[**3-5**] urine negative
   2/8,2/9,[**3-6**] blood cx NGTD
   [**3-4**] sputum >25polys 1+GPC in pairs, cx with ** sparse strep
   pneumoniae**, PCP ** positive **, fungal cx NGTD, AFB smear negative cx
   NGTD
   [**3-4**] nasopharyngeal aspirate ** positive ** for Influenza B
   [**3-4**] urine legionella ag negative
   [**3-6**] serum cryptococcal antigen pending
                             [**2129-3-6**]  05:38 AM
                             [**2129-3-6**]  06:05 AM
                             [**2129-3-6**]  08:18 AM
                             [**2129-3-6**]  01:19 PM
                             [**2129-3-6**]  01:31 PM
                             [**2129-3-6**]  06:30 PM
                             [**2129-3-6**]  08:00 PM
                             [**2129-3-6**]  08:07 PM
                             [**2129-3-7**]  02:42 AM
                             [**2129-3-7**]  02:55 AM
   WBC
   6.0
   5.7
   2.6
   Hct
   22.2
   21.9
   21.9
   Plt
   167
   164
   115
   Cr
   6.8
   6.9
   7.0
   5.8
   TCO2
   16
   14
   16
   18
   19
   Glucose
   104
   125
   135
   148
   124
   Other labs: PT / PTT / INR:13.0/48.8/1.1, CK / CKMB /
   Troponin-T:85/6/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.2,
   Amylase / Lipase:63/42, Differential-Neuts:79.0 %, Band:10.0 %,
   Lymph:8.0 %, Mono:3.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:160 IU/L,
   Ca++:7.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   P/F improved from yesterday AM, still in acute lung injury range.  pH
   improved likely [**2-26**] CVVH.
   Taking intermittent large tidal volumes, at risk for ptx given PCP.
   [**Name10 (NameIs) 133**] increase sedation as BP tolerates, hold off on paralytics at this
   time. Goal TV 6ml/kg. Continue current vent settings recheck ABG in
   afternoon.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Hemodyanamically more stable today off of pressors, no significant
   fevers.
   Suspect pulmonary source, also consider GI source given abdominal
   distension. On broad antibiotic coverage currently.
   Continues to make essentially no urine so can
t follow urine output as
   marker of end organ perfusion.
   Target MAP>65. SvO2 ok at 87% yesterday.
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
   Patient with few strep pneumoniae on sputum gram stain. Unclear if
   pathogenic, but will treat. Call lab to check sensitivities. Continue
   current regimen vancomycin, zosyn, azithromycin per ID. IVIG given
   yesterday. Started ambisome yesterday empirically continue for now
   while tenuous. Redose vancomycin today for trough ~15 (target 15-20)
   and recheck level in AM.
 Influenza
   Continue oseltamivir to complete 14d course
 PJP
   Continue bactrim, steroids.
 Anemia
   Poor response to transfusion yesterday. No evidence of hemolysis and no
   heme+ stools [**Name8 (MD) **] RN report. Monitor Hct [**Hospital1 7**], continue PPI. Transfuse
   1unit PRBC target Hb>7.
 Leukopenia
   Cytoxan last received on [**2-26**], this is near expected period for WBC
   nadir.  Multiple other reasons for cytopenia including influenza
   infection or other medications such as bactrim. Follow, check
   differential and ANC. D/w oncology regarding neupogen plans.
 Abdominal distension
   Concern for SBO, may be [**2-26**] fentanyl. Trial of PO narcan today. Follow
   electrolytes [**Hospital1 7**] replete K >4, Magnesium>2
 Coagulopathy
   No evidence for DIC at this time. Will decrease SQ heparin to [**Hospital1 7**]
   dosing in light of PTT elevation.
 h/o Atrial fibrillation
   In SR currently, restart low dose beta blocker as BP tolerates.
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   Onc recs appreciated.  s/p IVIG
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Still essentially anuric, see [**3-6**] for differential dx discussion. On
   CVVH. Renal recommendations appreciated. Renal dose meds.
   ICU Care
   Nutrition: start tube feeds at low dose as tolerated, if unable to
   tolerate then consider TPN tomorrow
   Glycemic Control:  Comments: sugars elevated yesterday in setting of D5
   with IVIG, consider insulin infusion today if glucose persistently
   elevated >150 by afternoon
   Lines:
   16 Gauge - [**2129-3-4**] 04:51 AM
   20 Gauge - [**2129-3-4**] 04:53 AM
   18 Gauge - [**2129-3-4**] 04:54 AM
   Arterial Line - [**2129-3-4**] 08:16 AM
   Dialysis Catheter - [**2129-3-6**] 11:05 AM
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2129-03-07 10:19:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   dialysis begun
   ambisome begun
   24 Hour Events:
 DIALYSIS CATHETER - START [**2129-3-6**] 11:05 AM
 MULTI LUMEN - START [**2129-3-6**] 12:42 PM
 MULTI LUMEN - START [**2129-3-6**] 02:49 PM
 MULTI LUMEN - STOP [**2129-3-6**] 05:13 PM
 URINE CULTURE - At [**2129-3-6**] 09:12 PM
   History obtained from Medical records, ICU team
   Patient unable to provide history: Sedated
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-3-4**] 10:14 AM
   Vancomycin - [**2129-3-5**] 03:08 PM
   Ceftriaxone - [**2129-3-5**] 04:13 PM
   Cefipime - [**2129-3-6**] 03:45 PM
   Ambisome - [**2129-3-6**] 06:56 PM
   Azithromycin - [**2129-3-6**] 07:56 PM
   Bactrim (SMX/TMP) - [**2129-3-7**] 05:55 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 400 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-3-6**] 12:04 PM
   Other medications:
   tamiflu, electrolytes, Tricor, vitamins, [**Last Name (LF) 131**], [**First Name3 (LF) **], solumedrol 60 per
   day
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-7**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96.1
   HR: 67 (60 - 91) bpm
   BP: 123/51(74){88/36(52) - 145/61(87)} mmHg
   RR: 24 (24 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
   CVP: 17 (13 - 19)mmHg
   Total In:
                                                                  5,319 mL
                                                                  2,141 mL
   PO:
   TF:
   IVF:
                                                                  4,914 mL
                                                                  2,011 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,833 mL
                                                                  3,131 mL
   Urine:
                                                                     34 mL
                                                                     12 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  3,486 mL
                                                                   -990 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: 7.30/37/92.[**Numeric Identifier 132**]/16/-7
   Ve: 17.1 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, somewhat dysconjugate gaze
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : ), anterior exam only
   Abdominal: Soft, protuberant
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   115 K/uL
   107 mg/dL
   5.8 mg/dL
   16 mEq/L
   3.9 mEq/L
   58 mg/dL
   102 mEq/L
   132 mEq/L
   21.9 %
   2.6 K/uL
        [image002.jpg]
                             [**2129-3-6**]  08:18 AM
                             [**2129-3-6**]  01:19 PM
                             [**2129-3-6**]  01:31 PM
                             [**2129-3-6**]  06:30 PM
                             [**2129-3-6**]  08:00 PM
                             [**2129-3-6**]  08:07 PM
                             [**2129-3-7**]  02:42 AM
                             [**2129-3-7**]  02:55 AM
                             [**2129-3-7**]  08:22 AM
                             [**2129-3-7**]  08:31 AM
   WBC
   5.7
   2.6
   Hct
   21.9
   21.9
   Plt
   164
   115
   Cr
   6.9
   7.0
   5.8
   TCO2
   14
   16
   18
   19
   19
   Glucose
   125
   135
   148
   124
   107
   Other labs: PT / PTT / INR:13.0/48.8/1.1, CK / CKMB /
   Troponin-T:85/6/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.2,
   Amylase / Lipase:63/42, Differential-Neuts:79.0 %, Band:10.0 %,
   Lymph:8.0 %, Mono:3.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:160 IU/L,
   Ca++:7.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR shows NG sideport too high.  ?left effusion, but
   substantial portion excluded
   Assessment and Plan
   68 year old man with respiratory failure secondary to multiple
   pulmonary infections: influenza, PCP, [**Name10 (NameIs) **] Pneumococcus have been
   identified.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   - he is moderately dyssynchronous
   - not yet ready to come off the ventilator
   - we will increase sedation and target 6cc/kg/breath tidal volumes if
   possible, but would not paralyze to achieve at this point.
   - repeat CXR today
 PNEUMONIA, PNEUMOCYSTIS JIROVECI (PCP, [**Name10 (NameIs) 127**] [**Name11 (NameIs) 128**]
   PNEUMONIA)
   - treat with Bactrim
   - continue steroids
 PNEUMONIA, VIRAL (influenza)
   - on Tamiflu
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
   - on broad antibacterial antibiotics, which should adequately cover his
   identified Pneumococcus
   - on amphotericin empirically at present
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   Acute on chronic renal failure, now on CVVHD.
   Will change line to IJ today.
 SEVERE SEPSIS
   Received IVIG yesterday
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   Recently s/p chemotherapy
   Received IVIG yesterday
 ILEUS
   Begin oral narcan for ileus.
 AFib now in sinus
   Begin gentle beta blockade.
 Coagulopathy
   Likely related to heparin; will check DIC labs.  Decrease SQH dose.
   ICU Care
   Nutrition: try TF today.
   Comments: Will try to treat ileus.  If we are unable to make progress,
   may need TPN.
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   16 Gauge - [**2129-3-4**] 04:51 AM
   20 Gauge - [**2129-3-4**] 04:53 AM
   18 Gauge - [**2129-3-4**] 04:54 AM
   Arterial Line - [**2129-3-4**] 08:16 AM
   Dialysis Catheter - [**2129-3-6**] 11:05 AM
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Will change SQH to twice a day since his PTT
   is rising.)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50
   Patient is critically ill

2129-03-08 07:30:00 Physician Resident Progress Note
Chief Complaint: 60M with myeloma admitted with respiratory failure
   found to have [** 134**], also PCP and [**Name9 (PRE) 137**] in sputum
   24 Hour Events:
   drew large tidal volumes despite increasing sedation so started on IV
   methadone
 better sync with vent subsequently
   started tube feeds, tolerating
   having trace heme+ stools
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Last dose of Antibiotics:
   Ceftriaxone - [**2129-3-5**] 04:13 PM
   Ambisome - [**2129-3-6**] 06:56 PM
   Vancomycin - [**2129-3-7**] 11:33 AM
   Cefipime - [**2129-3-7**] 12:40 PM
   Azithromycin - [**2129-3-7**] 09:22 PM
   Bactrim (SMX/TMP) - [**2129-3-8**] 04:19 AM
   Infusions:
   Fentanyl (Concentrate) - 250 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-3-7**] 08:33 AM
   Pantoprazole (Protonix) - [**2129-3-7**] 08:34 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2129-3-8**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 63 (56 - 79) bpm
   BP: 119/48(67){98/38(54) - 142/58(84)} mmHg
   RR: 24 (19 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.8 kg (admission): 87.6 kg
   Height: 68 Inch
    CVP: 14 (3 - 17)mmHg
   Total In:
                                                                  6,371 mL
                                                                  1,963 mL
   PO:
   TF:
                                                                    109 mL
                                                                     73 mL
   IVF:
                                                                  6,071 mL
                                                                  1,829 mL
   Blood products:
   Total out:
                                                                  9,253 mL
                                                                  2,573 mL
   Urine:
                                                                     52 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,882 mL
                                                                   -610 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   Compliance: 91.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.38/34/89.[**Numeric Identifier 126**]/22/-3
   Ve: 16.2 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Eyes / Conjunctiva: PERRL, pupils disconjugate as yesterday
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, less distended today
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   122 K/uL
   7.5 g/dL
   143 mg/dL
   4.3 mg/dL
   22 mEq/L
   4.0 mEq/L
   45 mg/dL
   96 mEq/L
   132 mEq/L
   21.9 %
   3.1 K/uL
        [image002.jpg]
   [**3-7**] ANC 2250
   Vanco trough 21.3
   CXR: official read pending, increased R sided opacity, has bilateral
   effusions
   KUB [**3-7**]: dilated small and large bowel c/w early vs partial
   obstruction
   Micro:
   2/8,[**3-5**] urine negative
   2/8,2/9,[**3-6**] blood cx NGTD
   [**3-4**] sputum >25polys 1+GPC in pairs, cx with ** sparse strep pneumoniae
   suspected pcn resistant sensis pending**, PCP ** positive **, fungal cx
   with ** yeast ** speciation pending, AFB smear negative cx NGTD
   [**3-4**] nasopharyngeal aspirate ** positive ** for [**Month/Day (4) **] B
   [**3-4**] urine legionella ag negative
   [**3-6**] serum cryptococcal antigen negative
   Upep pending
                             [**2129-3-7**]  02:55 AM
                             [**2129-3-7**]  08:22 AM
                             [**2129-3-7**]  08:31 AM
                             [**2129-3-7**]  02:04 PM
                             [**2129-3-7**]  02:33 PM
                             [**2129-3-7**]  06:53 PM
                             [**2129-3-7**]  07:13 PM
                             [**2129-3-8**]  12:36 AM
                             [**2129-3-8**]  03:43 AM
                             [**2129-3-8**]  06:19 AM
   WBC
   4.2
   3.1
   Hct
   22.0
   21.9
   Plt
   123
   122
   Cr
   4.6
   4.4
   4.3
   TCO2
   19
   19
   19
   21
   24
   21
   Glucose
   107
   118
   102
   143
   Other labs: PT / PTT / INR:13.8/44.7/1.2, CK / CKMB /
   Troponin-T:85/6/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:86.4 %, Band:Units: %
   Range: 0-5 %, Lymph:10.4 %, Mono:2.8 %, Eos:0.1 %, Lactic Acid:0.8
   mmol/L, Albumin:2.7 g/dL, LDH:177 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Last ABG shows acceptable oxygenation.
   TVs improved since methadone started but would increase sedation
   further to achieve TV of 6cc/kg (~540 based on 88kg admit weight).
   Monitor QTc while on methadone last 419ms on [**3-4**].
   Continue current vent settings recheck ABG in afternoon.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Hypotensive off of CVVH this AM during rounds
 CVP 15 arguing against
   significant volume depletion. Back on levophed.
   Continues to make essentially no urine so can
t follow urine output as
   marker of end organ perfusion.
   Target MAP>65. Recheck Svo2.
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
   Patient with few strep pneumoniae on sputum gram stain, awaiting
   sensitivities. Continue current regimen vancomycin, zosyn, azithromycin
   per ID. s/p IVIG. Continue ambisome empirically for now while tenuous.
   Hold vancomycin today as trough 21.3 (goal trough 15-20), repeat trough
   in AM. Checking CMV viral load, glucan, galactomannan per ID
   recommendations. Note that patient has been on Zosyn this admission so
   may have false + fungal antigen.
 [**Hospital **]
   Continue oseltamivir to complete 14d course
 PJP
   Continue bactrim, steroids. PO steroids okay.
 Anemia
   Poor response to transfusion [**3-6**]. No evidence of hemolysis. Trace
   heme+ stools today [**Name8 (MD) **] RN. [**Month (only) 51**] be related to obstruction now resolving.
   Labs without evidence of DIC.
   Monitor Hct [**Hospital1 7**], continue PPI. Transfuse Hb>7.
 Leukopenia
   Cytoxan last received on [**2-26**], this is near expected period for WBC
   nadir.  Multiple other reasons for cytopenia including [**Month/Day (2) 134**]
   infection or other medications such as bactrim. D/w oncology regarding
   neupogen plans.
 Abdominal distension
   Improved today, passing stool and tolerating tube feeds.  Replete lytes
   prn.
 Coagulopathy
   PTT decreased today following decreased dose of SQ heparin. Follow
   coags daily.
 h/o Atrial fibrillation
   In SR currently, continue low dose beta blocker as BP tolerates.
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   Onc recs appreciated.  s/p IVIG
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Still essentially anuric, see [**3-6**] for differential dx discussion. On
   CVVH. Renal recommendations appreciated. Renal dose meds. No HD today,
   await dialysis catheter placement.
 Hyponatremia
   Check with renal re CVVH bath
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-3-7**] 01:04 PM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2129-3-4**] 04:53 AM
   18 Gauge - [**2129-3-4**] 04:54 AM
   Arterial Line - [**2129-3-4**] 08:16 AM
   Dialysis Catheter - [**2129-3-6**] 11:05 AM
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2129-03-09 07:40:00 Physician Resident Progress Note
Chief Complaint: 68M with myeloma admitted with respiratory distress
   found to have influenza with sputum also growing PJP, pneumococcus,
   yeast
   24 Hour Events:
   Became hypotensive after CVVH; required levophed most of day
   Held CVVH and did not get tunneled catheter b/c of hypotension
   Added haldol for further sedation
   Transfused 1 unit pRBCs
   Decreased tidal volume to 470 with close monitoring of ABG
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Last dose of Antibiotics:
   Ambisome - [**2129-3-6**] 06:56 PM
   Vancomycin - [**2129-3-7**] 11:33 AM
   Azithromycin - [**2129-3-7**] 09:22 PM
   Cefipime - [**2129-3-8**] 12:52 PM
   Bactrim (SMX/TMP) - [**2129-3-9**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-3-8**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2129-3-9**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 65 (63 - 78) bpm
   BP: 107/44(60){86/40(54) - 129/57(78)} mmHg
   RR: 32 (23 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.1 kg (admission): 87.6 kg
   Height: 68 Inch
    CVP: 8 (8 - 17)mmHg
   Total In:
                                                                  5,376 mL
                                                                  1,189 mL
   PO:
   TF:
                                                                    448 mL
                                                                    266 mL
   IVF:
                                                                  4,391 mL
                                                                    755 mL
   Blood products:
                                                                    328 mL
                                                                     48 mL
   Total out:
                                                                  5,348 mL
                                                                     73 mL
   Urine:
                                                                     41 mL
                                                                     73 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     28 mL
                                                                  1,116 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 470 (470 - 550) mL
   RR (Set): 32
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 16 cmH2O
   Compliance: 78.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.38/37/91.[**Numeric Identifier 143**]/21/-2
   Ve: 14.5 L/min
   PaO2 / FiO2: 230
   [**3-8**] SvO2 88%
   Physical Examination
   Eyes / Conjunctiva: PERRL, disconjugate pupils as noted previously
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : few L base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   123 K/uL
   7.9 g/dL
   141 mg/dL
   5.6 mg/dL
   21 mEq/L
   4.3 mEq/L
   63 mg/dL
   95 mEq/L
   130 mEq/L
   22.8 %
   2.2 K/uL
        [image002.jpg]
   Ca 6.5 (corrected to 7.5 using [**3-4**] alb of 2.7) Mg 2.1 Phos 4.8
   Fingersticks 111-202
   Vanco trough 18.7
   CXR official read pending, increased L sided effusion
   Micro:
   2/8,[**3-5**] urine negative
   2/8,2/9,2/10,[**3-8**] blood cx NGTD
   [**3-4**] sputum >25polys 1+GPC in pairs, cx with ** sparse strep pneumoniae
   suspected pcn resistant sensis pending**, PCP ** positive **, fungal cx
   with ** yeast ** speciation pending, AFB smear negative cx NGTD
   [**3-4**] nasopharyngeal aspirate ** positive ** for Influenza B
   [**3-4**] urine legionella ag negative
   [**3-6**] serum cryptococcal antigen negative
   [**3-8**] CMV viral load pending
   [**3-8**] beta glucan and galactomannan pending
   Upep pending
                             [**2129-3-8**]  12:36 AM
                             [**2129-3-8**]  03:43 AM
                             [**2129-3-8**]  06:19 AM
                             [**2129-3-8**]  11:07 AM
                             [**2129-3-8**]  04:23 PM
                             [**2129-3-8**]  06:00 PM
                             [**2129-3-8**]  11:13 PM
                             [**2129-3-9**]  01:09 AM
                             [**2129-3-9**]  04:59 AM
                             [**2129-3-9**]  05:18 AM
   WBC
   3.1
   3.0
   2.2
   Hct
   21.9
   22.7
   22.8
   Plt
   122
   136
   123
   Cr
   4.3
   5.6
   TCO2
   24
   21
   25
   25
   24
   23
   Glucose
   143
   109
   141
   Other labs: PT / PTT / INR:13.8/44.7/1.2, CK / CKMB /
   Troponin-T:85/6/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:86.4 %, Band:Units: %
   Range: 0-5 %, Lymph:10.4 %, Mono:2.8 %, Eos:0.1 %, Fibrinogen:297
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:177 IU/L, Ca++:6.5
   mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   TV were decreased yesterday, overbreathing vent still but TV
   essentially at goal 6cc/kg (~540 based on 88kg admit weight)
   Last ABG shows acceptable oxygenation.  P/F ~stable. Monitor QTc while
   on methadone last 419ms on [**3-4**].
   Continue current vent settings recheck ABG in afternoon.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   BP stable now off of pressors. Had been getting aggressive fluid
   removal via CVVH likely accounted for hypotension yesterday
   Continues to make essentially no urine so can
t follow urine output as
   marker of end organ perfusion.
   Target MAP>65.
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
   Patient with few strep pneumoniae on sputum gram stain, awaiting
   sensitivities.
   Continue current regimen vancomycin, zosyn, azithromycin per ID. Dose
   vancomycin with HD per renal.
   Checking CMV viral load, glucan, galactomannan per ID recommendations.
   Note that patient has been on Zosyn this admission so may have false +
   fungal antigen.
 Influenza
   Continue oseltamivir to complete 14d course
 PJP
   Continue bactrim, steroids.
 Anemia
   Poor response to transfusion [**3-6**]. No evidence of hemolysis on recent
   labs. Had trace heme+ stools yesterday [**Name8 (MD) **] RN, recheck today. Repeat
   DIC labs. Monitor Hct [**Hospital1 7**], continue PPI. Transfuse Hb>7.
 Leukopenia
   Cytoxan last received on [**2-26**], this is near expected period for WBC
   nadir.  Check ANC. Multiple other reasons for cytopenia including
   influenza infection or other medications such as bactrim. D/w oncology
   regarding neupogen plans.
 Abdominal distension
   Improved today, passing stool and tolerating tube feeds.  Replete lytes
   prn.
 h/o Atrial fibrillation
   In SR currently, continue low dose beta blocker as BP tolerates.
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   Onc recs appreciated.  s/p IVIG
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Still essentially anuric, see [**3-6**] for differential dx discussion. On
   CVVH. Renal recommendations appreciated. Renal dose meds. Plan for
   dialysis catheter placement today
 Hyponatremia
   Check with renal re CVVH bath. [**Month (only) 51**] be secondary to hypotonic fluids.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-3-9**] 12:15 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2129-3-4**] 08:16 AM
   Dialysis Catheter - [**2129-3-6**] 11:05 AM
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2129-03-09 10:04:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2129-3-8**] 09:15 PM
   right AC venipuncture
 BLOOD CULTURED - At [**2129-3-8**] 09:30 PM
   left Subclavian culture drawn
 SPUTUM CULTURE - At [**2129-3-9**] 05:00 AM
   Developed shock again yesterday; resolved with volume repletion.
   Ampho stopped.
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Last dose of Antibiotics:
   Ambisome - [**2129-3-6**] 06:56 PM
   Vancomycin - [**2129-3-7**] 11:33 AM
   Azithromycin - [**2129-3-7**] 09:22 PM
   Cefipime - [**2129-3-8**] 12:52 PM
   Bactrim (SMX/TMP) - [**2129-3-9**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-3-8**] 08:00 PM
   Other medications:
   SQI, CHG, Tricor, folate, [**Last Name (LF) 131**], [**First Name3 (LF) **], prednisone 40, PPI, methadone,
   tamiflu, SQH, fentanyl gtt
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-9**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 68 (63 - 78) bpm
   BP: 104/44(62) {86/40(54) - 129/57(78)} mmHg
   RR: 32 (23 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.1 kg (admission): 87.6 kg
   Height: 68 Inch
   CVP: 8 (8 - 17)mmHg
   Total In:
                                                                  5,376 mL
                                                                  1,321 mL
   PO:
   TF:
                                                                    448 mL
                                                                    339 mL
   IVF:
                                                                  4,391 mL
                                                                    814 mL
   Blood products:
                                                                    328 mL
                                                                     48 mL
   Total out:
                                                                  5,348 mL
                                                                     73 mL
   Urine:
                                                                     41 mL
                                                                     73 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     28 mL
                                                                  1,248 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 470 (470 - 550) mL
   RR (Set): 32
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 47 cmH2O/mL
   SpO2: 96%
   ABG: 7.38/37/91.[**Numeric Identifier 143**]/21/-2
   Ve: 14.5 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   123 K/uL
   141 mg/dL
   5.6 mg/dL
   21 mEq/L
   4.3 mEq/L
   63 mg/dL
   95 mEq/L
   130 mEq/L
   22.8 %
   2.2 K/uL
        [image002.jpg]
                             [**2129-3-8**]  12:36 AM
                             [**2129-3-8**]  03:43 AM
                             [**2129-3-8**]  06:19 AM
                             [**2129-3-8**]  11:07 AM
                             [**2129-3-8**]  04:23 PM
                             [**2129-3-8**]  06:00 PM
                             [**2129-3-8**]  11:13 PM
                             [**2129-3-9**]  01:09 AM
                             [**2129-3-9**]  04:59 AM
                             [**2129-3-9**]  05:18 AM
   WBC
   3.1
   3.0
   2.2
   Hct
   21.9
   22.7
   22.8
   Plt
   122
   136
   123
   Cr
   4.3
   5.6
   TCO2
   24
   21
   25
   25
   24
   23
   Glucose
   143
   109
   141
   Other labs: PT / PTT / INR:13.2/60.5/1.1, CK / CKMB /
   Troponin-T:85/6/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:86.4 %, Band:Units: %
   Range: 0-5 %, Lymph:10.4 %, Mono:2.8 %, Eos:0.1 %, Fibrinogen:255
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:177 IU/L, Ca++:6.5
   mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   [image004.gif]
   Assessment and Plan
   68 year old man with respiratory failure related to multiple pulmonary
   infections included influenza, PCP, [**Name10 (NameIs) **] Pneumococcus.  His shock
   resolved overnight with transfusion.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   -- decrement PEEP today
   -- if tolerates PEEP of 8 or 5, would then begin to decrease sedation
   and look toward pressure support (?SBT) in the next day or two
 PNEUMONIA, PNEUMOCYSTIS JIROVECI (PCP, [**Name10 (NameIs) 127**] [**Name11 (NameIs) 128**]
   PNEUMONIA) --> Bactrim and steroids
 PNEUMONIA, VIRAL (influenza) --> tamiflu x 14 days
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP) --> Pneumococcal
   Also on additional broad-spectrum coverage per ID
 SHOCK
   -- now resolved; appears to have been related to hypovolemia
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   on hemodialysis
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   -- no acute intervention
 ANEMIA
   -- Hct did not bump completely appropriately with
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-3-9**] 12:15 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-3-4**] 08:16 AM
   Dialysis Catheter - [**2129-3-6**] 11:05 AM
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2129-03-10 07:53:00 Physician Resident Progress Note
Chief Complaint: 68M with myeloma and [** 134**], with sputum also
   growing PJP and pneumococcus
   24 Hour Events:
   Had dialysis line placed, underwent HD with 1.5L removed, no
   complications
   PEEP decreased to 8 then 5, but oxygenation worsened (pO2s in low 60's)
   so increased back to 10
   Called by RN to evaluate RUE due to concern RUE cooler than LUE,
   resolved on follow up exam, good pulses
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Last dose of Antibiotics:
   Vancomycin - [**2129-3-7**] 11:33 AM
   Cefipime - [**2129-3-8**] 12:52 PM
   Azithromycin - [**2129-3-9**] 08:15 AM
   Bactrim (SMX/TMP) - [**2129-3-9**] 02:41 PM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-3-10**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 67 (64 - 71) bpm
   BP: 111/44(64){104/43(60) - 141/54(297)} mmHg
   RR: 30 (16 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.1 kg (admission): 87.6 kg
   Height: 68 Inch
    CVP: 11 (8 - 11)mmHg
   Total In:
                                                                  3,574 mL
                                                                    498 mL
   PO:
   TF:
                                                                    729 mL
                                                                    176 mL
   IVF:
                                                                  2,407 mL
                                                                    217 mL
   Blood products:
                                                                     48 mL
   Total out:
                                                                  1,629 mL
                                                                     65 mL
   Urine:
                                                                    129 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,945 mL
                                                                    433 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 470 (470 - 470) mL
   RR (Set): 32
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   SpO2: 92%
   ABG: 7.42/40/69/24/Units: mEq/L
   Ve: 17.4 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Eyes / Conjunctiva: PERRL, pupils disconjugate as before
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   102 K/uL
   7.7 g/dL
   106 mg/dL
   4.8 mg/dL
   24 mEq/L
   4.9 mEq/L
   47 mg/dL
   98 mEq/L
   132 mEq/L
   21.7 %
   1.8 K/uL
        [image002.jpg]
   Golucose 98-206
   CXR offical read pending, increased R sided opacity effusion vs
   infiltrate
   Micro
   2/8,[**3-5**] urine negative
   [**3-4**] blood cx negative. 2/9,2/10,[**3-8**] blood cx NGTD
   [**3-4**] sputum >25polys 1+GPC in pairs, cx with ** sparse strep pneumoniae
   (R to pcn and bactrim, S to ctx, erythromycin, levoflox, tetracyclin,
   vanco)**, PCP ** positive **, fungal cx with ** yeast ** speciation
   pending, AFB smear negative cx NGTD
   [**3-4**] nasopharyngeal aspirate ** positive ** for [**Month/Day (4) **] B
   [**3-4**] urine legionella ag negative
   [**3-6**] serum cryptococcal antigen negative
   [**3-8**] CMV viral load negative
   [**3-8**] galactomannan 0.354, glucan pending
   [**3-9**] sputum >25 polys and 1+ budding yeast on gram stain, cx pending
                             [**2129-3-8**]  06:00 PM
                             [**2129-3-8**]  11:13 PM
                             [**2129-3-9**]  01:09 AM
                             [**2129-3-9**]  04:59 AM
                             [**2129-3-9**]  05:18 AM
                             [**2129-3-9**]  03:18 PM
                             [**2129-3-9**]  05:04 PM
                             [**2129-3-9**]  05:30 PM
                             [**2129-3-10**]  12:07 AM
                             [**2129-3-10**]  05:06 AM
   WBC
   2.2
   1.8
   Hct
   22.8
   22.7
   21.7
   Plt
   123
   102
   Cr
   5.6
   4.0
   4.8
   TCO2
   25
   25
   24
   23
   28
   28
   27
   Glucose
   141
   98
   106
   Other labs: PT / PTT / INR:13.2/60.5/1.1, CK / CKMB /
   Troponin-T:85/6/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:77.7 %, Band:Units: %
   Range: 0-5 %, Lymph:16.1 %, Mono:5.7 %, Eos:0.4 %, Fibrinogen:255
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:177 IU/L, Ca++:6.8
   mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   P/F decreased today. Did not tolerated decrease in PEEP yesterday, may
   be [**2-26**] pulmonary edema (vs pna).  Also consider whether cardiac
   ischemic could be contributory to difficulty with weaning vent.
   --Reattempt decrease PEEP today with repeat ABG.
   --Check EKG now, and repeat when PEEP has been decreased to assess for
   ST/T changes suggestive of myocardial ischemia.
   --Would attempt to remove additional fluid at HD today if
   hemodynamically tolerated, will d/w renal.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   BP stable, off pressors. Continues to make essentially no urine so
   can
t follow urine output as marker of end organ perfusion.
   Target MAP>65.
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
   Given increased R sided opacity and failure to improve oxygenation
   significantly will continue current abx. Pneumococus in sputum will be
   covered on current regimen.
   Continue vancomycin, cefepime, azithromycin. Dose vancomycin with HD
   per renal. If clinically improved tomorrow, would consider
   discontinuing vancomycin or azithromycin.
   Galactomannan detectable but <0.5; Note that patient has been on Zosyn
   this admission so may have false + fungal antigen.
 [**Hospital **]
   Continue oseltamivir to complete 14d course
 PJP
   Continue bactrim, steroids.
 Anemia
   Hct stable, will hold off on transfusion at this time. No evidence of
   active bleeding (did have heme+ stool earlier in the week) follow Hct,
   continue PPI. Transfuse Hb>7.
 Leukopenia
   Cytoxan last received on [**2-26**], this is near expected period for WBC
   nadir.  Check ANC. Multiple other reasons for cytopenia including
   [**Month/Day (2) 134**] infection or other medications such as bactrim. D/w oncology
   regarding neupogen plans.
 Abdominal distension
   Improved, passing stool and tolerating tube feeds.  Replete lytes prn.
 h/o Atrial fibrillation
   In SR currently, continue low dose beta blocker as BP tolerates.
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   Onc recs appreciated.  s/p IVIG
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Still essentially anuric, see [**3-6**] for differential dx discussion. On
   HD. Renal recommendations appreciated. Renal dose meds. Renal to remove
   femoral line today.
 Hyponatremia
   Stable, discuss dialysis fluids with renal.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-3-9**] 06:50 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2129-3-4**] 08:16 AM
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Dialysis Catheter - [**2129-3-9**] 01:15 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2129-03-10 10:23:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2129-3-9**] 11:54 AM
 DIALYSIS CATHETER - START [**2129-3-9**] 01:15 PM
   R  SC
   Had to go back up on PEEP.
   Episode of ?cooler hand but resolved without therapy
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Last dose of Antibiotics:
   Vancomycin - [**2129-3-7**] 11:33 AM
   Cefipime - [**2129-3-8**] 12:52 PM
   Azithromycin - [**2129-3-9**] 08:15 AM
   Bactrim (SMX/TMP) - [**2129-3-9**] 02:41 PM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Other medications:
   see [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-10**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 71 (64 - 71) bpm
   BP: 125/54(75){110/43(63) - 141/54(297)} mmHg
   RR: 32 (16 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.1 kg (admission): 87.6 kg
   Height: 68 Inch
   CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  3,574 mL
                                                                    714 mL
   PO:
   TF:
                                                                    729 mL
                                                                    246 mL
   IVF:
                                                                  2,407 mL
                                                                    283 mL
   Blood products:
                                                                     48 mL
   Total out:
                                                                  1,629 mL
                                                                     65 mL
   Urine:
                                                                    129 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,945 mL
                                                                    649 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 470 (470 - 470) mL
   RR (Set): 32
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: 7.44/36/82.[**Numeric Identifier 143**]/24/Units: mEq/L
   Ve: 17.4 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: )
   Abdominal: Soft, protuberant
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   102 K/uL
   106 mg/dL
   4.8 mg/dL
   24 mEq/L
   4.9 mEq/L
   47 mg/dL
   98 mEq/L
   132 mEq/L
   21.7 %
   1.8 K/uL
        [image002.jpg]
                             [**2129-3-8**]  11:13 PM
                             [**2129-3-9**]  01:09 AM
                             [**2129-3-9**]  04:59 AM
                             [**2129-3-9**]  05:18 AM
                             [**2129-3-9**]  03:18 PM
                             [**2129-3-9**]  05:04 PM
                             [**2129-3-9**]  05:30 PM
                             [**2129-3-10**]  12:07 AM
                             [**2129-3-10**]  05:06 AM
                             [**2129-3-10**]  09:43 AM
   WBC
   2.2
   1.8
   Hct
   22.8
   22.7
   21.7
   Plt
   123
   102
   Cr
   5.6
   4.0
   4.8
   TCO2
   25
   24
   23
   28
   28
   27
   25
   Glucose
   141
   98
   106
   Other labs: PT / PTT / INR:13.2/60.5/1.1, CK / CKMB /
   Troponin-T:85/6/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:77.7 %, Lymph:16.1 %,
   Mono:5.7 %, Eos:0.4 %, Fibrinogen:255 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.7 g/dL, LDH:177 IU/L, Ca++:6.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.4
   mg/dL
   Imaging: CXR with with some increased right-sided opacity, likely
   layering effusion.
   Assessment and Plan
   68 year old man with respiratory failure secondary to multiple
   pulmonary infections (PCP, [**Name10 (NameIs) 134**], Pneumococcus) as well as possible
   pulmonary edema.  It is also possible, given the quite dramatic
   response to minimal lowering of PEEP, that there is inducible cardiac
   ischemia leading to worsened ventricular compliance and acute pulmonary
   edema.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   -- decrease PEEP today
   -- if he fails, check EKG before increasing PEEP
   -- hemodialysis to keep negative today
 PNEUMONIA, PNEUMOCYSTIS JIROVECI (PCP, [**Name10 (NameIs) 127**] [**Name11 (NameIs) 128**]
   PNEUMONIA)
   -- Bactrim + steroids
 PNEUMONIA, VIRAL ([**Name11 (NameIs) 134**])
   -- tamiflu
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
   -- continue ABX per ID
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   -- HD to keep negative
   -- **TAKE FEMORAL DIALYSIS CATHETER OUT**
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   -- no acute intervention
 PANCYTOPENIA
   -- multifactorial
   -- follow for now; not at tranfusion threshold
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-3-9**] 06:50 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2129-3-4**] 08:16 AM
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Dialysis Catheter - [**2129-3-9**] 01:15 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2129-03-11 07:52:00 Physician Resident Progress Note
Chief Complaint: 68M with myeloma admit with respiratory distress with
   influenza, PJP, pneumococcus in sputum
   24 Hour Events:
   No dialysis performed
   antibiotics changed per renal, d/c'ed bactrim, began clinda/primaquine
   no significant EKG changes after decrease in PEEP last night 10->8
   Femoral Line removed
   PEEP decreased to 8, EKG and ABG done
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2129-3-9**] 02:41 PM
   Vancomycin - [**2129-3-10**] 02:00 PM
   Cefipime - [**2129-3-10**] 04:00 PM
   Azithromycin - [**2129-3-10**] 08:00 PM
   Clindamycin - [**2129-3-11**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 110 mcg/hour
   Midazolam (Versed) - 7.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-3-10**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2129-3-11**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 67 (63 - 76) bpm
   BP: 114/49(68){100/48(64) - 154/73(97)} mmHg
   RR: 32 (0 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
             Total In:
                                                                  2,626 mL
                                                                    728 mL
   PO:
             TF:
                                                                    786 mL
                                                                    272 mL
   IVF:
                                                                  1,405 mL
                                                                    396 mL
   Blood products:
   Total out:
                                                                    220 mL
                                                                     95 mL
   Urine:
                                                                    220 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,406 mL
                                                                    633 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 470 (470 - 470) mL
   RR (Set): 32
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.40/38/89.[**Numeric Identifier 126**]/22/Units: mEq/L
   Ve: 17.1 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Eyes / Conjunctiva: PERRL, disconjugate pupils no change
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended, increased distension today, no
   rigidity or guarding
   Extremities: Right: Absent, Left: Absent, extremities warm, good
   pulses. 1+ UE edema no change
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   121 K/uL
   7.4 g/dL
   99 mg/dL
   6.2 mg/dL
   22 mEq/L
   4.8 mEq/L
   64 mg/dL
   98 mEq/L
   131 mEq/L
   20.3 %
   2.4 K/uL
        [image002.jpg]
   [**3-10**] ANC 1270
   CXR official read pending, bilateral effusions
   Micro
   Micro
   2/8,[**3-5**] urine negative
   [**3-4**] blood cx negative. 2/9,2/10,[**3-8**] blood cx NGTD
   [**3-4**] sputum >25polys 1+GPC in pairs, cx with ** sparse strep pneumoniae
   (R to pcn and bactrim, S to ctx, erythromycin, levoflox, tetracyclin,
   vanco)**, PCP ** positive **, fungal cx with ** yeast ** speciation
   pending, AFB smear negative cx NGTD
   [**3-4**] nasopharyngeal aspirate ** positive ** for Influenza B
   [**3-4**] urine legionella ag negative
   [**3-6**] serum cryptococcal antigen negative
   [**3-8**] CMV viral load negative
   [**3-8**] galactomannan 0.354, glucan pending
   [**3-9**] sputum >25 polys and 1+ budding yeast on gram stain, cx sparse
   yeast two colonies
                             [**2129-3-9**]  05:04 PM
                             [**2129-3-9**]  05:30 PM
                             [**2129-3-10**]  12:07 AM
                             [**2129-3-10**]  05:06 AM
                             [**2129-3-10**]  09:43 AM
                             [**2129-3-10**]  12:00 PM
                             [**2129-3-10**]  06:02 PM
                             [**2129-3-10**]  06:27 PM
                             [**2129-3-11**]  02:21 AM
                             [**2129-3-11**]  04:30 AM
   WBC
   1.8
   2.3
   2.4
   Hct
   22.7
   21.7
   21.6
   20.3
   Plt
   102
   117
   121
   Cr
   4.0
   4.8
   6.2
   TCO2
   28
   27
   25
   25
   24
   Glucose
   98
   106
   128
   99
   Other labs: PT / PTT / INR:14.2/36.0/1.2, CK / CKMB /
   Troponin-T:85/6/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:77.7 %, Band:Units: %
   Range: 0-5 %, Lymph:16.1 %, Mono:5.7 %, Eos:0.4 %, Fibrinogen:261
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:177 IU/L, Ca++:6.8
   mg/dL, Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   P/F improved today with improved oxygenation today.
   CXR shows bilateral effusions and edema which may have contributed to
   difficulty weaning vent. No ischemic changes post decrease in PEEP
   yesterday.
   --Decrease PEEP to 5 today repeat PM ABG
   --Would attempt to remove additional fluid at HD today if
   hemodynamically tolerated, will d/w renal.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   BP stable, off pressors. Made small amount of urine yesterday, follow
   today. Target MAP>65.  Repeat SVO2 today.
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
   D/C vancomycin and azithromycin today.
   Pneumococus in sputum would be covered by cefepime.
   Galactomannan detectable but <0.5; Note that patient has been on Zosyn
   this admission so may have false + fungal antigen.
 Influenza
   Continue oseltamivir to complete 14d course
 PJP
   Changed from Bactrim to primaquine/clindamycin due to concern that
   Bactrim was contributing to cytopenias.
 Anemia
   Hct stable, transfuse 2units PRBC at dialysis today. No evidence of
   active bleeding (did have heme+ stool earlier in the week) follow Hct,
   continue PPI. Transfuse Hb>7.
 Leukopenia
   Improved today. Cytoxan last received on [**2-26**],  near expected period for
   WBC nadir
   Multiple other reasons for cytopenia including influenza infection or
   other medications such as bactrim.
 Abdominal distension
   Slightly increased today without peritoneal signs, passing small amount
   of stool. Repeat KUB, consider repeat PO narcan. Replete lytes prn.
 h/o Atrial fibrillation
   In SR currently, continue low dose beta blocker as BP tolerates.
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   Onc recs appreciated.  s/p IVIG
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Plan for HD today. Increased urine output yesterday. Renal
   recommendations appreciated. Renal dose meds.
 Hyponatremia
   Stable, discuss dialysis fluids with renal.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-3-11**] 12:18 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2129-3-4**] 08:16 AM
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication:  with family
   Code status: Full code
   Disposition:ICU

2129-03-11 10:55:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2129-3-10**] 05:00 PM
 EKG - At [**2129-3-11**] 02:12 AM
   PEEP decreased
   No spontaneous respirations when RSBI attempted
   Patient unable to provide history: Sedated
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2129-3-9**] 02:41 PM
   Vancomycin - [**2129-3-10**] 02:00 PM
   Cefipime - [**2129-3-10**] 04:00 PM
   Azithromycin - [**2129-3-10**] 08:00 PM
   Clindamycin - [**2129-3-11**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 110 mcg/hour
   Midazolam (Versed) - 7.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-3-10**] 08:00 PM
   Other medications:
   CHG, vitamins, [**Last Name (LF) 131**], [**First Name3 (LF) **], pred 40, allopurinol, PPI, azithro, MDI,
   metoprolol, methadone IV 20 q4h, SQI, tamiflu, primaquine/clinda
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-11**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 81 (63 - 81) bpm
   BP: 131/49(72) {100/43(64) - 154/73(97)} mmHg
   RR: 28 (0 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
   Mixed Venous O2% Sat: 93 - 93
   Total In:
                                                                  2,626 mL
                                                                  1,026 mL
   PO:
   TF:
                                                                    786 mL
                                                                    374 mL
   IVF:
                                                                  1,405 mL
                                                                    532 mL
   Blood products:
   Total out:
                                                                    220 mL
                                                                    118 mL
   Urine:
                                                                    220 mL
                                                                    118 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,406 mL
                                                                    908 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 470 (470 - 470) mL
   RR (Set): 32
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 93%
   ABG: 7.40/38/89.[**Numeric Identifier 126**]/22/Units: mEq/L
   Ve: 17.1 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant), No(t) S3
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   121 K/uL
   99 mg/dL
   6.2 mg/dL
   22 mEq/L
   4.8 mEq/L
   64 mg/dL
   98 mEq/L
   131 mEq/L
   20.3 %
   2.4 K/uL
        [image002.jpg]
                             [**2129-3-9**]  05:04 PM
                             [**2129-3-9**]  05:30 PM
                             [**2129-3-10**]  12:07 AM
                             [**2129-3-10**]  05:06 AM
                             [**2129-3-10**]  09:43 AM
                             [**2129-3-10**]  12:00 PM
                             [**2129-3-10**]  06:02 PM
                             [**2129-3-10**]  06:27 PM
                             [**2129-3-11**]  02:21 AM
                             [**2129-3-11**]  04:30 AM
   WBC
   1.8
   2.3
   2.4
   Hct
   22.7
   21.7
   21.6
   20.3
   Plt
   102
   117
   121
   Cr
   4.0
   4.8
   6.2
   TCO2
   28
   27
   25
   25
   24
   Glucose
   98
   106
   128
   99
   Other labs: PT / PTT / INR:14.2/36.0/1.2, CK / CKMB /
   Troponin-T:85/6/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:77.7 %, Band:Units: %
   Range: 0-5 %, Lymph:16.1 %, Mono:5.7 %, Eos:0.4 %, Fibrinogen:261
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:177 IU/L, Ca++:6.8
   mg/dL, Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   68 year-old man with respiratory failure from influenza, PCP, [**Name10 (NameIs) **]
   Pneumococcus.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   -          his hypoxemia has improved
   -          at present, his sedation is such that he is unable to change
   to a spontaneous mode of ventilation.  We will hold sedation until he
   has spontaneous respirations; it is unlikely that we can just stop all
   sedation since he has been on it for a long time.
 PNEUMONIA, PNEUMOCYSTIS JIROVECI (PCP, [**Name10 (NameIs) 127**] [**Name11 (NameIs) 128**]
   PNEUMONIA)
   -          Bactrim may have contibuted to pancytopenia, so now on
   primaquine/clinda per ID
 PNEUMONIA, VIRAL
   -          repeat DFA to see if he
s cleared
   -          tamiflu
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
   -          taper antibiotics per ID
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   on HD per renal
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   - no acute intervention
 PANCYTOPENIA
   - multifactorial; Bactrim may have contibuted
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-3-11**] 12:18 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2129-3-4**] 08:16 AM
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40
   Patient is critically ill

2129-03-12 08:17:00 Physician Resident Progress Note
Chief Complaint: 68M with myeloma admitted with respiratory failure
   with influenza sputum also with pneumococcus and PJP
   24 Hour Events:
   Dialyzed in AM--negative 3.5L
   Received 1unit PRBCs in AM
   Hct bumped
   Stopped sedation and woke up, seemed in pain, so restarted
   fentanyl/versed at lower doses; held methadone
   Tried to wean PEEP to 5, but poor ABG, so increased back to 8
   Hypertensive to 180s with HR in 90s; increased beta blocker
   Spoke with patient's wife on phone, she is coming in Saturday
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2129-3-9**] 02:41 PM
   Vancomycin - [**2129-3-10**] 02:00 PM
   Azithromycin - [**2129-3-10**] 08:00 PM
   Clindamycin - [**2129-3-11**] 03:30 PM
   Cefipime - [**2129-3-11**] 04:00 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-12**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 111 (69 - 111) bpm
   BP: 240/115(164){120/43(64) - 240/115(164)} mmHg
   RR: 28 (17 - 32) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
    Mixed Venous O2% Sat: 93 - 93
   Total In:
                                                                  1,640 mL
                                                                    430 mL
   PO:
   TF:
                                                                    490 mL
                                                                    313 mL
   IVF:
                                                                    969 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  3,673 mL
                                                                     20 mL
   Urine:
                                                                    173 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,033 mL
                                                                    410 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 992 (992 - 992) mL
   RR (Set): 26
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 93%
   ABG: 7.40/44/117/27/2
   Ve: 12.6 L/min
   PaO2 / FiO2: 293
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, face flushed,
   tearing
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   161 K/uL
   10.1 g/dL
   129 mg/dL
   4.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   46 mg/dL
   105 mEq/L
   142 mEq/L
   29.5 %
   4.5 K/uL
        [image002.jpg]
   Micro
   2/8,[**3-5**] urine negative
   [**3-4**] blood cx negative. 2/9,2/10,[**3-8**] blood cx NGTD
   [**3-4**] sputum >25polys 1+GPC in pairs, cx with ** sparse strep pneumoniae
   (R to pcn and bactrim, S to ctx, erythromycin, levoflox, tetracyclin,
   vanco)**, PCP ** positive **, fungal cx with ** yeast ** speciation
   pending, AFB smear negative cx NGTD
   [**3-4**] nasopharyngeal aspirate ** positive ** for Influenza B
   [**3-4**] urine legionella ag negative
   [**3-6**] serum cryptococcal antigen negative
   [**3-8**] CMV viral load negative
   [**3-8**] galactomannan 0.354, glucan pending
   [**3-9**] sputum >25 polys and 1+ budding yeast on gram stain, cx sparse
   yeast two colonies
   CXR no new
                             [**2129-3-10**]  12:00 PM
                             [**2129-3-10**]  06:02 PM
                             [**2129-3-10**]  06:27 PM
                             [**2129-3-11**]  02:21 AM
                             [**2129-3-11**]  04:30 AM
                             [**2129-3-11**]  01:14 PM
                             [**2129-3-11**]  07:16 PM
                             [**2129-3-12**]  12:19 AM
                             [**2129-3-12**]  04:00 AM
                             [**2129-3-12**]  04:04 AM
   WBC
   2.3
   2.4
   4.5
   Hct
   21.6
   20.3
   26.7
   29.5
   Plt
   117
   121
   161
   Cr
   6.2
   4.9
   TCO2
   25
   24
   29
   30
   28
   Glucose
   128
   99
   129
   Other labs: PT / PTT / INR:14.2/36.0/1.2, CK / CKMB /
   Troponin-T:85/6/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:83.0 %, Band:Units: %
   Range: 0-5 %, Lymph:10.0 %, Mono:5.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:261 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.7
   g/dL, LDH:177 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   P/F decreased today. Did not tolerated decrease in PEEP yesterday, may
   be [**2-26**] pulmonary edema (vs pna).  Also consider whether cardiac
   ischemic could be contributory to difficulty with weaning vent.
   --Reattempt decrease PEEP today with repeat ABG.
   --Check EKG now, and repeat when PEEP has been decreased to assess for
   ST/T changes suggestive of myocardial ischemia.
   --Would attempt to remove additional fluid at HD today if
   hemodynamically tolerated, will d/w renal.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   BP stable, off pressors. Continues to make essentially no urine so
   can
t follow urine output as marker of end organ perfusion.
   Target MAP>65.
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
   Given increased R sided opacity and failure to improve oxygenation
   significantly will continue current abx. Pneumococus in sputum will be
   covered on current regimen.
   Continue vancomycin, cefepime, azithromycin. Dose vancomycin with HD
   per renal. If clinically improved tomorrow, would consider
   discontinuing vancomycin or azithromycin.
   Galactomannan detectable but <0.5; Note that patient has been on Zosyn
   this admission so may have false + fungal antigen.
 Influenza
   Continue oseltamivir to complete 14d course
 PJP
   Continue bactrim, steroids.
 Anemia
   Hct stable, will hold off on transfusion at this time. No evidence of
   active bleeding (did have heme+ stool earlier in the week) follow Hct,
   continue PPI. Transfuse Hb>7.
 Leukopenia
   Cytoxan last received on [**2-26**], this is near expected period for WBC
   nadir.  Check ANC. Multiple other reasons for cytopenia including
   influenza infection or other medications such as bactrim. D/w oncology
   regarding neupogen plans.
 Abdominal distension
   Improved, passing stool and tolerating tube feeds.  Replete lytes prn.
 h/o Atrial fibrillation
   In SR currently, continue low dose beta blocker as BP tolerates.
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   Onc recs appreciated.  s/p IVIG
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Still essentially anuric, see [**3-6**] for differential dx discussion. On
   HD. Renal recommendations appreciated. Renal dose meds. Renal to remove
   femoral line today.
 Hyponatremia
   Stable, discuss dialysis fluids with renal.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-3-12**] 06:27 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2129-3-4**] 08:16 AM
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2129-03-12 10:32:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Tolerated HD yesterday with 3.5 L fluid off
   -Hypertensive this AM when sedation d/c'ed
   -did not tolerate wean of PEEP to 8 (PaO2 down to 60s from 90s)
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2129-3-9**] 02:41 PM
   Vancomycin - [**2129-3-10**] 02:00 PM
   Azithromycin - [**2129-3-10**] 08:00 PM
   Clindamycin - [**2129-3-11**] 03:30 PM
   Cefipime - [**2129-3-11**] 04:00 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   protonix, atrovent, SQ heparin, insulin sliding scale, prednisone 40,
   colace, aspirin, [**Year (4 digits) **], folate, tricor, primaquine, metoprolol 50 tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-12**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 73 (69 - 111) bpm
   BP: 145/76(96){130/47(69) - 240/115(164)} mmHg
   RR: 26 (17 - 32) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
             Total In:
                                                                  1,640 mL
                                                                    544 mL
   PO:
             TF:
                                                                    490 mL
                                                                    357 mL
   IVF:
                                                                    969 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                  3,673 mL
                                                                     20 mL
   Urine:
                                                                    173 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,033 mL
                                                                    524 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 992 (992 - 992) mL
   RR (Set): 26
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 93%
   ABG: 7.40/44/117/27/2
   Ve: 12.6 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear
   )
some central ronchi noted with inspiration and expiration.
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed.  Patient does clearly follow commands when
   given in patient
s language.
   Labs / Radiology
   10.1 g/dL
   161 K/uL
   129 mg/dL
   4.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   46 mg/dL
   105 mEq/L
   142 mEq/L
   29.5 %
   4.5 K/uL
        [image002.jpg]
                             [**2129-3-10**]  12:00 PM
                             [**2129-3-10**]  06:02 PM
                             [**2129-3-10**]  06:27 PM
                             [**2129-3-11**]  02:21 AM
                             [**2129-3-11**]  04:30 AM
                             [**2129-3-11**]  01:14 PM
                             [**2129-3-11**]  07:16 PM
                             [**2129-3-12**]  12:19 AM
                             [**2129-3-12**]  04:00 AM
                             [**2129-3-12**]  04:04 AM
   WBC
   2.3
   2.4
   4.5
   Hct
   21.6
   20.3
   26.7
   29.5
   Plt
   117
   121
   161
   Cr
   6.2
   4.9
   TCO2
   25
   24
   29
   30
   28
   Glucose
   128
   99
   129
   Other labs: PT / PTT / INR:14.2/36.0/1.2, CK / CKMB /
   Troponin-T:85/6/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:83.0 %, Band:Units: %
   Range: 0-5 %, Lymph:10.0 %, Mono:5.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:261 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.7
   g/dL, LDH:177 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Microbiology: Repeat DFA yesterday pending
   No new cx data
   Assessment and Plan
   68 y/o M with respiratory failure secondary to influenza, PCP, [**Name10 (NameIs) **]
   pneumococcus.  Now slowly improving.
 PANCYTOPENIA:  Is improving since stopping bactrim.  No txn
   indication today.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  RSBI 16 this morning.
   Will do SBT.  If he fails, will at least switch him over to PSV and see
   if he tolerates it.  Likely his primary problem from a respiratory
   standpoint is due to volume overload, so will cont to remove fluid with
   HD.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION):  Resolved.  No pressor
   requirement in several days.
 PNEUMONIA, PNEUMOCYSTIS JIROVECI (PCP, [**Name10 (NameIs) 127**] [**Name11 (NameIs) 128**]
   PNEUMONIA):  Cont prednisone for 21 day course.  Cont
   clinda/primaquine.
 PNEUMONIA, VIRAL:  F/u repeat DFA, can d/c precautions if negative.
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP):  Antibiotics
   narrowed, which he has tolerated.  Will cont to monitor.  Will speak
   with ID regarding changing cefepime to ceftriaxone.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   on HD
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM):  Not actively
   treating.
 HYPERTENSION:  [**Month (only) 51**] be due to anxiety since he appears rather awake
   right now.  Will cont metoprolol but not increase dose at this point
   given likely [**2-26**] htn (from anxiety).
   ALTERATION OF AWARENESS
Patient with intermittent agitation but clearly
   re-directable.  This is accompanied by hypertension and
   tachycardia
which if not completely resolved with dialysis will most
   reasonably be treated as acute withdrawl as next trial.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-3-12**] 07:14 AM 35 mL/hour
   Comments: holding tube feeds in case he gets extubated
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2129-3-4**] 08:16 AM
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45
   Patient is critically ill

2129-03-13 08:29:00 Physician Resident Progress Note
Chief Complaint: 68M with myeloma admitted with respiratory failure
   with influenza, PJP, pneumococcus
   24 Hour Events:
   flu antigen negative so as per ID note dc'd droplet precautions and
   stopped oseltamivir
   underwent HD with 5L removed
   good RSBI so underwent SBT. became hypertensive to 240's. did not
   extubate as patient was not reliably following commands even when son
   present talking with him.
   decreased O2 sats high 80's in setting of marked hypertension - EKG
   obtained showed diffuse ST depressions resolved with better BP control
   on nitro drip, cardiac enzymes flat. put back on AC. CXR showed
   suggestive of increased effusion vs pulm edema
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Antibiotics
   Cefepime 1g IV daily
   Clindamycin 600mg IV q8
   Primaquine 30mg PO daily
   Other medications:
   Prednisone taper
   Methadone 10mg IV q4
   Metoprolol 75mg PO TID
   Allopurinol, [** **], tricor, Insulin SS, Protonix, Heparin SQ
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2129-3-13**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.3
   HR: 62 (62 - 115) bpm
   BP: 131/68(86){108/67(80) - 241/116(166)} mmHg
   RR: 20 (7 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
             Total In:
                                                                  1,271 mL
                                                                    306 mL
   PO:
             TF:
                                                                    702 mL
                                                                     48 mL
   IVF:
                                                                    479 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                     95 mL
                                                                      8 mL
   Urine:
                                                                     95 mL
                                                                      8 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,176 mL
                                                                    298 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 952 (471 - 1,123) mL
   PS : 5 cmH2O
   RR (Set): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 6
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 91%
   ABG: 7.43/49/107/30/6
   Ve: 10.1 L/min
   PaO2 / FiO2: 268
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   157 K/uL
   8.5 g/dL
   94 mg/dL
   5.2 mg/dL
   30 mEq/L
   4.0 mEq/L
   43 mg/dL
   101 mEq/L
   142 mEq/L
   24.8 %
   4.2 K/uL
        [image002.jpg]
   Micro
   2/8,[**3-5**] urine negative
   [**3-4**] blood cx negative. 2/9,2/10,[**3-8**] blood cx NGTD
   [**3-4**] sputum >25polys 1+GPC in pairs, cx with ** sparse strep pneumoniae
   (R to pcn and bactrim, S to ctx, erythromycin, levoflox, tetracyclin,
   vanco)**, PCP ** positive **, fungal cx with ** yeast ** speciation
   pending, AFB smear negative cx NGTD
   [**3-4**] nasopharyngeal aspirate ** positive ** for Influenza B
   [**3-4**] urine legionella ag negative
   [**3-6**] serum cryptococcal antigen negative
   [**3-8**] CMV viral load negative
   [**3-8**] galactomannan 0.354, glucan negative
   [**3-9**] sputum >25 polys and 1+ budding yeast on gram stain, cx sparse
   yeast two colonies
   [**3-11**] repeat nasopharyngeal aspirate antigen negative for influenza
                             [**2129-3-12**]  12:19 AM
                             [**2129-3-12**]  04:00 AM
                             [**2129-3-12**]  04:04 AM
                             [**2129-3-12**]  12:00 PM
                             [**2129-3-12**]  12:08 PM
                             [**2129-3-12**]  05:01 PM
                             [**2129-3-12**]  07:07 PM
                             [**2129-3-12**]  11:31 PM
                             [**2129-3-13**]  04:45 AM
                             [**2129-3-13**]  07:56 AM
   WBC
   4.5
   4.2
   Hct
   26.7
   29.5
   24.8
   Plt
   161
   157
   Cr
   4.9
   4.8
   5.2
   TCO2
   28
   29
   33
   33
   34
   Glucose
   129
   121
   156
   94
   Other labs: PT / PTT / INR:14.2/36.0/1.2, CK / CKMB /
   Troponin-T:53/2/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:83.0 %, Band:Units: %
   Range: 0-5 %, Lymph:10.0 %, Mono:5.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:261 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.7
   g/dL, LDH:177 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   A & P: 68 you M with respiratory failure [**2-26**] to influenza, PJP.  Also
   with renal failure on HD.
   1.  Respiratory Failure:  Failed SBT yesterday with HTN to 240's and
   sats to 80's, extubation held as patient was not following commands of
   son. EKG at that time showed diffuse ST depressions that resolved with
   drop in BP after nitro gtt.  CE did not bump.  This morning patient is
   sedated and unresponsive.
   CXR unchanged from yesterday's post SBT trial with pulmonary edema vs
   worsening effusion
   -RSBI 12 this morning
   -would d/c sedation and attempt to wean to PSV
   -would also re-evaluate neurological status with hopes of extubation
   2.  Sepsis:  Off pressors, anuric, renal following
   -target MAP>65
   3.  Pneumonia:  Continues to be afebrile with WBC 4.2
   -on cefepime, ID recommends narrowing, would change to ceftriaxone as
   pneumococcus is sensitive and does not need coverage for gram
   negatives
   -vacn and azithro d/c'ed
   4.  HTN: BP's to 240's yesterday in setting of decreased sedation and
   SBT trial.
   -SBP's in 130's currently
   -can add back nitro gtt in setting of weaning if necessary as patient
   responded well
   5.  PJP: Day 10 of treatment on primaquine and clindamycin, steroids
   -continue current managment
   6.  Influenza: Completed 9 day course
   -DFA negative, oseltamivir d/c'ed yesterday per ID as DFA negative
   -droplet precautions d/c'ed
   7.  Anemia:  HCT 24.8 today down from 29 yesterday
   -repeat pm HCT
   -no evidence of active bleeding  BP's stable (had trace heme + stools
   earlier in admission)
   -continue following HCT and transfuse <21
   -continue PPI
   8.  Leukopenia:  Resolving at 4.2 today
   -unclear [**Name2 (NI) 172**] includes s/o cytoxan treatment, bactrim, abx
   -continue to monitor
   9.  Abdominal Distension:   Exam benign today, having bowel movements
   -replete electrolytes prn
   10.  Renal Failure: Likely [**2-26**] multiple myeloma and sepsis. Continues
   to be anuric.  HD yesterday with 5L off, tolerated well
   -appreciate renal recs, plan for TIW HD, next HD Tuesday
   -medications renally dosed
   11.  H/o Atrial Fibrillation;
   -in NSR currently
   -continue on metoprolol 75mg po tid as BP's tolerate
   12.  Multiple Myeloma: s/p IVIg per onc
   -appreciate onc recs
   13.  ICU Care
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2129-3-4**] 08:16 AM
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   [**First Name4 (NamePattern1) 113**] [**Last Name (NamePattern1) 114**]

2129-03-14 08:54:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
   EEG was done, read pending
   Transfused 1 units pRBCs followed by lasix; appropriate Hct increase
   Continued to have clonus, but improved mental status
   Failed PSV trial after weaning sedation b/c
   HTN to low 200's; sedation was increased without adequate response in
   BP
   Nitro gtt started
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   pancytopenia;
   Last dose of Antibiotics:
   Cefipime - [**2129-3-12**] 06:00 PM
   Ceftriaxone - [**2129-3-14**] 12:21 AM
   Clindamycin - [**2129-3-14**] 08:21 AM
   Infusions:
   Nitroglycerin - 0.5 mcg/Kg/min
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-3-14**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2129-3-14**] 07:50 AM
   Other medications:
   Flowsheet Data as of  [**2129-3-14**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 69 (60 - 75) bpm
   BP: 161/65(97){129/63(82) - 195/87(121)} mmHg
   RR: 20 (18 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
             Total In:
                                                                  1,390 mL
                                                                    831 mL
   PO:
             TF:
                                                                     48 mL
   IVF:
                                                                  1,212 mL
                                                                    571 mL
   Blood products:
   Total out:
                                                                    408 mL
                                                                     17 mL
   Urine:
                                                                      8 mL
                                                                     17 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    982 mL
                                                                    814 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 900 (900 - 900) mL
   RR (Set): 8
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 94%
   ABG: 7.42/48/85.[**Numeric Identifier 126**]/24/5
   Ve: 8.4 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Intubated, sedated, not responding to verbal stimuli.
   S1, S2, +systolic murmur, RRR.
   Lungs with good air movement b/l
   Abd +BS, soft, NT
   Ext warm, well-perfused
   Labs / Radiology
   180 K/uL
   8.0 g/dL
   75 mg/dL
   6.8 mg/dL
   24 mEq/L
   4.3 mEq/L
   61 mg/dL
   103 mEq/L
   141 mEq/L
   23.7 %
   3.6 K/uL
        [image002.jpg]
                             [**2129-3-12**]  12:00 PM
                             [**2129-3-12**]  12:08 PM
                             [**2129-3-12**]  05:01 PM
                             [**2129-3-12**]  07:07 PM
                             [**2129-3-12**]  11:31 PM
                             [**2129-3-13**]  04:45 AM
                             [**2129-3-13**]  07:56 AM
                             [**2129-3-13**]  05:45 PM
                             [**2129-3-13**]  05:55 PM
                             [**2129-3-14**]  05:50 AM
   WBC
   4.2
   3.6
   Hct
   24.8
   24.8
   23.7
   Plt
   157
   180
   Cr
   4.8
   5.2
   6.8
   TCO2
   29
   33
   33
   34
   32
   Glucose
   121
   156
   94
   75
   Other labs: PT / PTT / INR:14.2/36.0/1.2, CK / CKMB /
   Troponin-T:53/2/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:83.0 %, Band:Units: %
   Range: 0-5 %, Lymph:10.0 %, Mono:5.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:261 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.7
   g/dL, LDH:177 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:5.8 mg/dL
   CXR [**3-13**]:
   ET tube tip is 5.6 cm above the carina.  NG tube tip is out of view bel
   [**Last Name (un) **] the
   diaphragm.  Bilateral central catheters are in unchanged position.  The
   re is
   no pneumothorax.  Cardiomediastinal contour is unchanged.  Ill-defined
   right
   perihilar opacity seen on prior study has resolved.  Minimal interstiti
   [**Doctor Last Name **]
   abnormality remains in the bases, as it does small bilateral pleural ef
   fusion,
   worse in the right side. Right lower lobe atelectasis is unchanged.
   Assessment and Plan:
   68yo gentleman with multiple myeloma admitted with respiratory failure
   in the setting of influenza, PCP, [**Name10 (NameIs) **] pneumococcal pneumonia.
   #. Respiratory failure:
   Due to infection with multiple organisms, including influenza, PCP,
   [**Name Initial (NameIs) 174**].
   -would attempt to wean sedation/vent with nitro on board
   -assess for possible extubation after HD done and BP control improved
   #.  Pneumonia:  Continues to be afebrile with WBC dropped to 3.6
   -continue ceftriaxone to treat strep pneumo for total 2 weeks (last day
   = [**3-17**])
   #.  PCP:
   [**Name10 (NameIs) 175**] current management; complete 3 week course of clindamycin and
   primaquine (last day = [**3-24**])
   -appreciate ID recs
   #.  Influenza: Completed 9 day course of tamiflu
   #.  HTN: BP's to 200's yesterday in setting of decreased sedation and
   PSV trial.
   Unclear etiology if [**2-26**] to pain or sedation withdrawal, though suspect
   that patient has baseline elevated BPs which are now unmasked as he
   improves clinically.
   -will stop ACE I per renal recs
   -continue metoprolol TID
   -titrate up dose of hydralazine
   #.  Anemia:  HCT 24.8 stable today
   -continue following HCT and transfuse <21
   -continue PPI
   #.  Leukopenia:  Mild decrease to 3.6 today
   -if continues to drop, would change back to cefepime
   -continue to monitor
   #.  Renal Failure: Likely [**2-26**] multiple myeloma and sepsis. Continues to
   be anuric.  HD currently, goal to remove 3.5L
   -appreciate renal recs
   -medications renally dosed
   #.  H/o Atrial Fibrillation;
   -in NSR currently
   -continue on metoprolol 75mg po tid as BP's tolerate
   #.  Multiple Myeloma: s/p IVIg per onc
   -appreciate onc recs
   ICU Care
   Nutrition: restart tube feeds if extubation fails
   Glycemic Control:  SSI
   Lines:
   Arterial Line - [**2129-3-4**] 08:16 AM
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   Prophylaxis:
   DVT: pneumoboots, subQ heparin
   Stress ulcer: PPI
   VAP:  HOB elevation, mouth care, daily wake-up, RSBI
   Code status: Full code
   Disposition: ICU
   Note written by [**First Name4 (NamePattern1) 113**] [**Last Name (NamePattern1) 114**], MS IV and edited by [**First Name8 (NamePattern2) 115**]
   [**Last Name (NamePattern1) 116**], MD

2129-03-14 10:49:00 Physician Attending Progress Note
Chief Complaint: hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Increasing hypertension requiring nitro gtt.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   pancytopenia;
   Last dose of Antibiotics:
   Cefipime - [**2129-3-12**] 06:00 PM
   Ceftriaxone - [**2129-3-14**] 12:21 AM
   Clindamycin - [**2129-3-14**] 08:21 AM
   Infusions:
   Nitroglycerin - 0.5 mcg/Kg/min
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-3-14**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2129-3-14**] 07:50 AM
   Other medications:
   ipratropium, insulin sliding scale, primaquine, chlorhexidine, colace,
   aspirin, [**Year (4 digits) **], folate, tricor, prednisone, allopurinol, methadone,
   metoprolol, lisinopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-14**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 72 (60 - 75) bpm
   BP: 153/68(97){129/63(82) - 195/87(121)} mmHg
   RR: 7 (7 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
             Total In:
                                                                  1,390 mL
                                                                    890 mL
   PO:
             TF:
                                                                     48 mL
   IVF:
                                                                  1,212 mL
                                                                    630 mL
   Blood products:
   Total out:
                                                                    408 mL
                                                                     17 mL
   Urine:
                                                                      8 mL
                                                                     17 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    982 mL
                                                                    873 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 900 (900 - 900) mL
   RR (Set): 8
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 93%
   ABG: 7.42/48/85.[**Numeric Identifier 126**]/24/5
   Ve: 8.4 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), I/VI
   murmur at apex
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , No(t) Wheezes : , Rhonchorous: coarse rhonchi anteriorly)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed.  Patient with some increased
   responsiveness but with realtively minimal organized response to
   commands.
   Labs / Radiology
   8.0 g/dL
   180 K/uL
   75 mg/dL
   6.8 mg/dL
   24 mEq/L
   4.3 mEq/L
   61 mg/dL
   103 mEq/L
   141 mEq/L
   23.7 %
   3.6 K/uL
        [image002.jpg]
                             [**2129-3-12**]  12:00 PM
                             [**2129-3-12**]  12:08 PM
                             [**2129-3-12**]  05:01 PM
                             [**2129-3-12**]  07:07 PM
                             [**2129-3-12**]  11:31 PM
                             [**2129-3-13**]  04:45 AM
                             [**2129-3-13**]  07:56 AM
                             [**2129-3-13**]  05:45 PM
                             [**2129-3-13**]  05:55 PM
                             [**2129-3-14**]  05:50 AM
   WBC
   4.2
   3.6
   Hct
   24.8
   24.8
   23.7
   Plt
   157
   180
   Cr
   4.8
   5.2
   6.8
   TCO2
   29
   33
   33
   34
   32
   Glucose
   121
   156
   94
   75
   Other labs: PT / PTT / INR:14.2/36.0/1.2, CK / CKMB /
   Troponin-T:53/2/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:83.0 %, Band:Units: %
   Range: 0-5 %, Lymph:10.0 %, Mono:5.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:261 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.7
   g/dL, LDH:177 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   68 y/o M w/MM, admitted with respiratory failure [**2-26**] influenza, PCP,
   [**Name10 (NameIs) **] pneumococcus.  Ventilator weaning is persistently limited by
   hypertension.
 PANCYTOPENIA:  WBC dropped slightly today although other cell lines
   stable to improved.  Will add on differential, trend WBC.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Initially due to
   infection, now appears to be limited by pulmonary edema and poorly
   controlled hypertension.  It is unclear whether his hypertension is due
   to transient LV noncompliance in the setting of myocardial ischemia
   versus agitation.
   - wean sedation today
   - taking 3.5 kg off with HD this AM
   - SBT after HD and hope to extubate today-main barrier is mental status
   and secretions which have shown a trend to improvement.  At this time
   patient agitation and secondary hypertension indicate requirement for
   either increased sedation or move to extubation which clinically has
   indications of reasonable certainty of success.
 HYPERTENSION:  On metoprolol.  will add hydralizine for afterload
   reduction.  Wean nitro gtt as tolerated.  Would expect some improvement
   post dialysis.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION):  Resolved.
 PNEUMONIA, PNEUMOCYSTIS JIROVECI (PCP, [**Name10 (NameIs) 127**] [**Name11 (NameIs) 128**]
   PNEUMONIA):  On prednisone and clinda/primaquine per ID.
 PNEUMONIA, VIRAL:  s/p course of tamiflu.  Repeat DFA negative.
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   on HD.  Hold ace and add hydral.
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   ICU Care
   Nutrition:
   Comments: tube feeds on hold pending potential extubation
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2129-3-4**] 08:16 AM
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2129-03-15 07:58:00 Physician Resident Progress Note
Chief Complaint: 68M with myeloma admitted with respiratory failure
   with influenza, PJP, [** 174**] from sputum
   24 Hour Events:
   Dialysis done, removed 3.5L
   Improved BP control with higher doses of hydralazine, but still quite
   high after extubation
   Extubated
   Started methadone [** 177**] (10 q6h -> 10 q8h -> q12h -> daily)
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis; Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   pancytopenia;
   Last dose of Antibiotics:
   Cefipime - [**2129-3-12**] 06:00 PM
   Ceftriaxone - [**2129-3-14**] 04:51 PM
   Clindamycin - [**2129-3-15**] 12:00 AM
   Infusions:
   Nitroglycerin - 0.5 mcg/Kg/min
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2129-3-15**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 114 (69 - 114) bpm
   BP: 147/86(212){131/56(78) - 176/86(212)} mmHg
   RR: 20 (4 - 23) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
    CVP: 1 (1 - 14)mmHg
   Total In:
                                                                  1,554 mL
                                                                    256 mL
   PO:
   TF:
   IVF:
                                                                  1,294 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  3,517 mL
                                                                      0 mL
   Urine:
                                                                     17 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,963 mL
                                                                    256 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,200 (900 - 1,200) mL
   RR (Set): 8
   PEEP: 5 cmH2O
   FiO2: 70%
   SpO2: 95%
   ABG: 7.43/45/80.[**Numeric Identifier 176**]/23/4
   Ve: 8.2 L/min
   PaO2 / FiO2: 114
   Physical Examination
   General Appearance: confused appearing, lying diagonally in bed
   Eyes / Conjunctiva: PERRL, upper lip bleeding, scab removed during
   agitation o/n
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), tachycardic
   Respiratory / Chest: (Breath Sounds: Crackles : L base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, blink to threats
   Labs / Radiology
   166 K/uL
   8.9 g/dL
   85 mg/dL
   5.9 mg/dL
   23 mEq/L
   4.1 mEq/L
   40 mg/dL
   102 mEq/L
   142 mEq/L
   26.3 %
   7.6 K/uL
        [image002.jpg]
   CXR no new imaging
   Micro
   No new micro
                             [**2129-3-12**]  11:31 PM
                             [**2129-3-13**]  04:45 AM
                             [**2129-3-13**]  07:56 AM
                             [**2129-3-13**]  05:45 PM
                             [**2129-3-13**]  05:55 PM
                             [**2129-3-14**]  05:50 AM
                             [**2129-3-14**]  11:54 AM
                             [**2129-3-14**]  05:30 PM
                             [**2129-3-14**]  05:42 PM
                             [**2129-3-15**]  05:36 AM
   WBC
   4.2
   3.6
   8.1
   7.6
   Hct
   24.8
   24.8
   23.7
   27.8
   26.3
   Plt
   157
   180
   162
   166
   Cr
   4.8
   5.2
   6.8
   5.9
   TCO2
   34
   32
   30
   31
   Glucose
   156
   94
   75
   110
   85
   Other labs: PT / PTT / INR:13.6/32.1/1.2, CK / CKMB /
   Troponin-T:53/2/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:83.0 %, Band:Units: %
   Range: 0-5 %, Lymph:10.0 %, Mono:5.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:261 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:177 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   1.  Respiratory Failure:  Due to infection with multiple organisms
   -extubated successfully yesterday
   -on face tent and nasal cannula, O2 at 95%
   -on IV methadone [**Last Name (LF) 177**], [**First Name3 (LF) **] change to po once NG tube placed of 30mg
   once a day, then 20mg once a day and 10mg once a day
   2.  Altered Mental Status:  Likely [**2-26**] to sedation and slow recovery
   from infectio, however concern for acute bleed given several days of
   high blood pressures and concern for HSV CNS disease given lip lesion
   -frequent neuro checks
   -if unimproved or worsened this afternoon, would get head CT to r/o
   acute bleed and do further workup if warrented
   -will also start acyclovir on HD dosing empirically for HSV meningitis
   -will curbside ID for necessity of lip lesion culture/LP
   -continue methadone [**Month/Day (2) 177**] as above
   2.  Sepsis:  Off pressors, anuric, renal following
   -target MAP>65
   3.  Pneumonia:  Continues to be afebrile with WBC 7.6 today
   -continue Ceftriaxone for total of 2 weeks (last day [**3-17**])
   4.  HTN: continues to run high
   -increase metoprolol to 15mg IV
   -can titrate up current does of hydralizine of 20mg IV
   -will change to po medications after NGT
   5.  PJP: On primaquine and clindamycin, steroids
   -continue current managment for total of 3 weeks (last day [**3-24**])
   -primaquine is po only, will give after NGT
   -ID has signed off, appreciate recs
   6.  Influenza: Completed 9 day course of Oseltamivir
   7.  Anemia:  HCT 26.3 stable today
   -continue following HCT and transfuse <21
   -continue PPI
   8.  Leukopenia:  Resolving at 7.6 today, up from 3.6 yesterday
   -continue to monitor
   9.  Abdominal Distension:   Exam benign today, having bowel movements
   -replete electrolytes prn
   10.  Renal Failure: [**2-26**] to MM, worsened in setting of sepsis. Continues
   to be anuric.  HD yesterday with 3.5L off, HD again today.
   -appreciate renal recs
   -medications renally dosed
   11.  H/o Atrial Fibrillation: Mag low today, exhibiting bigeminy on 12
   lead starting before HD, no increase in agitation
   -replete lytes and closely monitor
   -continue on metoprolol 75mg po tid as BP's tolerate
   12.  Multiple Myeloma: s/p IVIg per onc
   -appreciate onc recs
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2129-3-4**] 08:16 AM
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2129-03-15 10:16:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday.
   Lip lesion has progressed a bit.
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   pancytopenia;
   Last dose of Antibiotics:
   Cefipime - [**2129-3-12**] 06:00 PM
   Ceftriaxone - [**2129-3-14**] 04:51 PM
   Clindamycin - [**2129-3-15**] 08:00 AM
   Infusions:
   Nitroglycerin - 0.5 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2129-3-15**] 06:00 AM
   Pantoprazole (Protonix) - [**2129-3-15**] 08:11 AM
   Heparin Sodium (Prophylaxis) - [**2129-3-15**] 08:11 AM
   Metoprolol - [**2129-3-15**] 08:11 AM
   Other medications:
   colace, aspirin, [**Year (4 digits) **], folate, tricor, prednisone, primaquine,
   metoprolol, methadone, atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-15**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.1
   HR: 94 (70 - 114) bpm
   BP: 157/70(102){131/56(78) - 176/86(212)} mmHg
   RR: 21 (4 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
   CVP: 7 (1 - 14)mmHg
   Total In:
                                                                  1,554 mL
                                                                    328 mL
   PO:
   TF:
   IVF:
                                                                  1,294 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                  3,517 mL
                                                                      0 mL
   Urine:
                                                                     17 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,963 mL
                                                                    328 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Vt (Spontaneous): 1,200 (1,200 - 1,200) mL
   SpO2: 96%
   ABG: 7.43/45/80.[**Numeric Identifier 176**]/23/4
   Ve: 8.2 L/min
   PaO2 / FiO2: 114
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, scabbed lesion over upper lip
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: anteriorly), transmitted upper airway sounds
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): hospital
   Labs / Radiology
   8.9 g/dL
   166 K/uL
   85 mg/dL
   5.9 mg/dL
   23 mEq/L
   4.1 mEq/L
   40 mg/dL
   102 mEq/L
   142 mEq/L
   26.3 %
   7.6 K/uL
        [image002.jpg]
                             [**2129-3-12**]  11:31 PM
                             [**2129-3-13**]  04:45 AM
                             [**2129-3-13**]  07:56 AM
                             [**2129-3-13**]  05:45 PM
                             [**2129-3-13**]  05:55 PM
                             [**2129-3-14**]  05:50 AM
                             [**2129-3-14**]  11:54 AM
                             [**2129-3-14**]  05:30 PM
                             [**2129-3-14**]  05:42 PM
                             [**2129-3-15**]  05:36 AM
   WBC
   4.2
   3.6
   8.1
   7.6
   Hct
   24.8
   24.8
   23.7
   27.8
   26.3
   Plt
   157
   180
   162
   166
   Cr
   4.8
   5.2
   6.8
   5.9
   TCO2
   34
   32
   30
   31
   Glucose
   156
   94
   75
   110
   85
   Other labs: PT / PTT / INR:13.6/32.1/1.2, CK / CKMB /
   Troponin-T:53/2/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:83.0 %, Band:Units: %
   Range: 0-5 %, Lymph:10.0 %, Mono:5.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:261 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:177 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   Imaging: CXR pending
   Microbiology: No new micro data
   Assessment and Plan
   68 y/o M with MM, renal failure, admitted with respiratory failure due
   to multiple different infections (influenza, [**Year (4 digits) 174**], PCP), now
   extubated.
 ALTERED MENTAL STATUS:  Likely related to sedation.  Is slowly
   improving since extubation yesterday.  The combination of hypertension
   and altered mental status is concerning for intracranial process,
   however he has been hypertensive throughout his stay, is following
   commands, and his mental status is improving.
   -          see below regarding potential HSV
   -          [**Year (4 digits) 177**] methadone
 will change to oral once he has NGT.  D/w
   pharmacy.
 ORAL ULCER:  Likely HSV.
   - in setting of HSV oral ulcer and altered mental status, need to
   consider HSV encephalitis
   - needs CT prior to LP to r/o cause of increased ICP
   - LP
   - culture lip.  Treat empirically with acyclovir for now (at systemic
   doses until CSF is back).
 PANCYTOPENIA:  WBC improving since stopping bactrim.
 HYPERTENSION:  As below, wean nitro gtt, increase beta-blocker,
   hydral.  No ischemic changes on ECG from this AM.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Now extubated, but with a
   high oxygen requirement.  Likely superimposed flash pulmonary edema in
   setting of multiple infections.
   - cont to remove fluid with HD
   - aggressive bp control - increase beta-blocker, wean nitro as
   tolerated, and continue hydralazine (no ACE per renal as they feel his
   renal fxn may recover)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION):  Resolved.
 PNEUMONIA, PNEUMOCYSTIS JIROVECI (PCP, [**Name10 (NameIs) 127**] [**Name11 (NameIs) 128**]
   PNEUMONIA):  Cont clinda/primaquine, prednisone 20 mg daily (total 21
   day course).
 PNEUMONIA, VIRAL: s/p treatment with oseltamavir.
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP): On ceftriaxone for
   [**Hospital 174**].
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   on HD
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM):  Not currently being
   treated.  Oncology following.
   .
   ICU Care
   Nutrition:
   Comments: place NGT, start tube feeds
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2129-3-4**] 08:16 AM
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   Comments: can d/c art line
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min

2129-03-16 07:55:00 Physician Resident Progress Note
Chief Complaint: 68M with myeloma admitted wtih respiratory distress
   with influenza, sputum also with PCP and pneumococcus
   24 Hour Events:
   Dialyzed ~2.5L. Had ventricular bigeminy during dialysis, BP stable.
   Had bleeding from mouth crusted lesions concerning for HSV (though most
   likely post-traumatic), underwent LP to r/o HSV encephalitis. Acyclovir
   started empirically
   Head CT performed prior to LP showed no bleed or mass, did show
   bifrontal fluid collections
   Attempted NGT placement but patient did not tolerate due to discomfort,
   plan to reattempt in AM with interpreter or family present
   Remained confused
 EKG - At [**2129-3-15**] 08:34 AM
 LUMBAR PUNCTURE - At [**2129-3-15**] 03:30 PM
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   pancytopenia;
   Last dose of Antibiotics:
   Ceftriaxone - [**2129-3-15**] 04:50 PM
   Acyclovir - [**2129-3-15**] 07:49 PM
   Clindamycin - [**2129-3-16**] 07:35 AM
   Infusions:
   Nitroglycerin - 0.3 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2129-3-15**] 06:23 PM
   Metoprolol - [**2129-3-16**] 07:33 AM
   Pantoprazole (Protonix) - [**2129-3-16**] 07:36 AM
   Heparin Sodium (Prophylaxis) - [**2129-3-16**] 07:36 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-16**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 103 (94 - 116) bpm
   BP: 157/51(74) {146/29(68) - 183/80(101)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
    CVP: 7 (7 - 7)mmHg
   Total In:
                                                                    721 mL
                                                                    141 mL
   PO:
   TF:
   IVF:
                                                                    721 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    300 mL
   Urine:
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,779 mL
                                                                   -159 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   Gen:  Awake, responds to voice, denies pain
   Neuro: Facial droop on R side, able to raise eyebrows symmetrically
   and resist eye opening.  Squeezes finerger bilaterally.
   CV: irregularly irregular
   Pulm: coarse breath sounds with expiratory wheezes on right side
   Abd: bowel sounds present, soft, no guarding
   Ext: warm, good pulses, minimal edema
   Labs / Radiology
   162 K/uL
   8.3 g/dL
   84 mg/dL
   7.7 mg/dL
   21 mEq/L
   4.5 mEq/L
   60 mg/dL
   103 mEq/L
   145 mEq/L
   25.8 %
   8.0 K/uL
        [image002.jpg]
   CT head
   1.  No evidence for hemorrhage.
   2.  Evidence for chronic small vessel microischemic changes is stable.
   3.  Extensive sinus disease within the frontal, maxillary and sphenoid
   sinuses
   as well as the mastoid air cells.  Acute sinusitis cannot be excluded
   and
   clinical correlation is recommended, especially in a patient who has
   been
   recently extubated.
   4.  Low density bifrontal fluid collections may represent prominent
   extra-
   axial CSF spaces in a patient with age-related atrophy versus subdural
   hygromas.  These are slightly more prominent than on the prior
   examination.
   CSF studies
   Gram no polys or organisms, protein 25, glucose 55. differential 3 wbc
   (82% lymphs, 18% monos), 3 rbc
   HSV PCR pending
   Micro
   Lip swab HSV DFA and cx pending
   No other new cx data
                             [**2129-3-13**]  07:56 AM
                             [**2129-3-13**]  05:45 PM
                             [**2129-3-13**]  05:55 PM
                             [**2129-3-14**]  05:50 AM
                             [**2129-3-14**]  11:54 AM
                             [**2129-3-14**]  05:30 PM
                             [**2129-3-14**]  05:42 PM
                             [**2129-3-15**]  05:36 AM
                             [**2129-3-15**]  05:31 PM
                             [**2129-3-16**]  04:59 AM
   WBC
   3.6
   8.1
   7.6
   7.7
   8.0
   Hct
   24.8
   23.7
   27.8
   26.3
   25.4
   25.8
   Plt
   180
   162
   166
   165
   162
   Cr
   6.8
   5.9
   7.1
   7.7
   TCO2
   34
   32
   30
   31
   Glucose
   75
   110
   85
   84
   84
   Other labs: PT / PTT / INR:15.1/34.8/1.3, CK / CKMB /
   Troponin-T:53/2/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:261 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:177 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.6 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   1.  Respiratory Failure:  Due to infection with multiple organisms
   -extubated successfully yesterday
   -continues to sat 95% on face tent with nasal cannula
   -on IV methadone taper, would change to po once NG tube placed by IR,
   unable to place in unit with multiple attempts
   2.  Altered Mental Status:  Contiues to be confused, though improvment
   from yesterday. Likely [**2-26**] to sedation and slow recovery from
   infection.  Non-con Ct showed no acute bleed, however poor study for
   ischemic stroke.  ? Right lip droop, neuro exam unreliable, and unlikle
   to be able to obtain MRI
   -LP done to look for HSV given lip lesion, studies pending
   -frequent neuro checks
   -continue acyclovir on HD dosing empirically for HSV meningitis
   -continue methadone taper as above
   2.  Sepsis:  Off pressors, anuric, renal following
   -target MAP>65
   3.  Pneumonia:  Continues to be afebrile with WBC 8 today
   -continue Ceftriaxone for total of 2 weeks (last day [**3-17**])
   4.  HTN: continues to run high in 150's
   -increase metoprolol to 20mg IV
   -can titrate up current does of hydralizine of 20mg IV
   -will change to po medications after NGT for better control and wean
   nitro gtt
   5.  PJP: On primaquine and clindamycin, steroids
   -has missed 2 doses primaqine as po medication only
   -need NG tube for delivery as above
   -continue current managment for total of 3 weeks (last day [**3-24**])
   -ID has signed off, appreciate recs
   6.  Influenza: Completed 9 day course of Oseltamivir
   7.  Anemia:  HCT 25.8 stable today
   -continue following HCT and transfuse <21
   -continue PPI
   8.  Leukopenia:  Resolved at 8 today
   -continue to monitor
   9.  Abdominal Distension:   Resolved. Exam benign today, having bowel
   movements
   -replete electrolytes prn
   10.  Renal Failure: [**2-26**] to MM, worsened in setting of sepsis.
   Continues to be anuric.  HD yesterday with 2.5L off, plan for HD again
   today
   -appreciate renal recs
   -medications renally dosed
   11.  H/o Atrial Fibrillation: Was in A-fib intermittantly this
   morning, now in NSR, may be [**2-26**] to sedation weaning
   -replete lytes and closely monitor
   -continue anti-HTN as above and titirate up a necessary
   12.  Multiple Myeloma: s/p IVIg per onc
   -appreciate onc recs
   ICU Care
   Nutrition:  plan NGT for tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2129-3-4**] 08:16 AM
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:  n/a
   Communication:  with family
   Code status: Full code
   Disposition:ICU
   [**First Name4 (NamePattern1) 113**] [**Last Name (NamePattern1) 114**] MS4
   Intern Addendum
   Agree with above note. Plan to place NGT today [**3-16**].
   [**First Name4 (NamePattern1) 129**] [**Last Name (NamePattern1) 130**] MD [**Last Name (Titles) 164**]-1 [**Numeric Identifier 139**]

2129-03-16 10:50:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 EKG - At [**2129-3-15**] 08:34 AM
 LUMBAR PUNCTURE - At [**2129-3-15**] 03:30 PM
   Unable to tolerate NG placement
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   pancytopenia;
   Last dose of Antibiotics:
   Ceftriaxone - [**2129-3-15**] 04:50 PM
   Acyclovir - [**2129-3-15**] 07:49 PM
   Clindamycin - [**2129-3-16**] 07:35 AM
   Infusions:
   Nitroglycerin - 0.5 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2129-3-15**] 06:23 PM
   Metoprolol - [**2129-3-16**] 07:33 AM
   Pantoprazole (Protonix) - [**2129-3-16**] 07:36 AM
   Heparin Sodium (Prophylaxis) - [**2129-3-16**] 07:36 AM
   Other medications:
   PPI, SQH, SQI, clinda, hydralazine, methadone
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-16**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 86 (86 - 116) bpm
   BP: 161/64(86) {146/29(68) - 183/80(101)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
             Total In:
                                                                    721 mL
                                                                    155 mL
   PO:
             TF:
   IVF:
                                                                    721 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    300 mL
   Urine:
   NG:
   Stool:
   300 mL
   Drains:
   Balance:
                                                                 -1,779 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   162 K/uL
   84 mg/dL
   7.7 mg/dL
   21 mEq/L
   4.5 mEq/L
   60 mg/dL
   103 mEq/L
   145 mEq/L
   25.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2129-3-13**]  07:56 AM
                             [**2129-3-13**]  05:45 PM
                             [**2129-3-13**]  05:55 PM
                             [**2129-3-14**]  05:50 AM
                             [**2129-3-14**]  11:54 AM
                             [**2129-3-14**]  05:30 PM
                             [**2129-3-14**]  05:42 PM
                             [**2129-3-15**]  05:36 AM
                             [**2129-3-15**]  05:31 PM
                             [**2129-3-16**]  04:59 AM
   WBC
   3.6
   8.1
   7.6
   7.7
   8.0
   Hct
   24.8
   23.7
   27.8
   26.3
   25.4
   25.8
   Plt
   180
   162
   166
   165
   162
   Cr
   6.8
   5.9
   7.1
   7.7
   TCO2
   34
   32
   30
   31
   Glucose
   75
   110
   85
   84
   84
   Other labs: PT / PTT / INR:15.1/34.8/1.3, CK / CKMB /
   Troponin-T:53/2/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:261 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:177 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.6 mg/dL, PO4:6.5 mg/dL
   Fluid analysis / Other labs: CSF showed 3w, 3r
   Imaging: CT with sinus disease and small possible bifrontal hygromas
   but not ICH or mass effect.
   Microbiology: CSF pending
   Assessment and Plan
   68 y/o man s/p respiratory failure from multiple pulmonary infections
   (PCP, [**Name10 (NameIs) **], influenza) now with ongoing delirium.
 PNEUMONIA, PNEUMOCYSTIS JIROVECI (PCP, [**Name10 (NameIs) 127**] [**Name11 (NameIs) 128**]
   PNEUMONIA)
   Clinda/primaquine
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   on HD
 DELIRIUM
   Concern for HSV meningoencephalitis, s/p LP
 makes this less likely
   Follow for now
 PANCYTOPENIA
   Felt most likely due to Bactrim
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
   n        antibiotics as outlined by ID
   n
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   - no acute intervention
   Other issues as per ICU team note.  Enteral access is a priority today.
   ICU Care
   Glycemic Control:  adequate
   Lines:
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   Prophylaxis:
   DVT: Boots; SQH
   Stress ulcer: n/a
   VAP: n/a
   Comments:
   Communication:  With wife
   Disposition : ICU
   Total time spent: 30 min
   6p addendum
   Housestaff attempted NG placement today without success.  Patient was
   planned for IR-guided NG, but developed difficult-to-control AFib with
   RVR today.  Eventually converted into NSR.  I placed a nasogastric tube
   this evening (unsuccessful small-bore no-stylet attempt, followed by a
   [**Hospital1 190**] sump; CXR pending).
   20 min

2129-03-17 07:41:00 Physician Resident Progress Note
Chief Complaint: 68M with myeloma admitted with SOB found to have
   influenza, with sputum also positive for PJP and pneumococcus
   24 Hour Events:
   Had afib with RVR to 160s, started dilt gtt
   Not dialyzed
   Attending placed NGT
   Allergies:
   Flomax orhtostasis;Bactrim pancytopenia;
   Last dose of Antibiotics:
   Ceftriaxone
   Clindamycin
   Primaquine
   Acyclovir
   Other medications:
   Diltiazem 60mg PO QID
   Diltiazem drip
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-3-17**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.9
   HR: 92 (83 - 139) bpm
   BP: 157/61(87) {119/50(73) - 183/73(98)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
             Total In:
                                                                    362 mL
                                                                    261 mL
   PO:
             TF:
   IVF:
                                                                    362 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                     62 mL
                                                                    261 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   Gen:  Awake, responds to voice, denies pain
   Neuro: Facial droop on R side present, moving all 4 limbs
   symmetrically, know name, asking to be moved, following commands
   CV: irregularly irregular, tachycardic
   Pulm: Coarse bronchial breath sounds, minimal expiratory wheezes
   Abd: protuberant, bowel sounds present, soft, NTND
   Ext: Minimal Le edema, warm, 2+ pulses b/l
   Labs / Radiology
   150 K/uL
   7.7 g/dL
   72 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.0 mEq/L
   27 mg/dL
   101 mEq/L
   131 mEq/L
   23.9 %
   7.1 K/uL
        [image002.jpg]
   CXR pending
   Micro
   CSF cx NGTD, HSV PCR pending
   Lip swab HSV culture pending, DFA not done by lab
   No other new cx data. Blood cx all negative.
                             [**2129-3-13**]  05:55 PM
                             [**2129-3-14**]  05:50 AM
                             [**2129-3-14**]  11:54 AM
                             [**2129-3-14**]  05:30 PM
                             [**2129-3-14**]  05:42 PM
                             [**2129-3-15**]  05:36 AM
                             [**2129-3-15**]  05:31 PM
                             [**2129-3-16**]  04:59 AM
                             [**2129-3-17**]  05:50 AM
                             [**2129-3-17**]  06:30 AM
   WBC
   3.6
   8.1
   7.6
   7.7
   8.0
   9.1
   7.1
   Hct
   23.7
   27.8
   26.3
   25.4
   25.8
   27.2
   23.9
   Plt
   180
   162
   166
   165
   162
   354
   150
   Cr
   6.8
   5.9
   7.1
   7.7
   0.9
   TCO2
   32
   30
   31
   Glucose
   75
   110
   85
   84
   84
   72
   Other labs: PT / PTT / INR:16.5/42.4/1.5, CK / CKMB /
   Troponin-T:53/2/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:261 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:177 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
    68 you M with multiple myeloma admitted with respiratory failure found
   to have influenza, PJP and pneumococcus pneumonia.
  Respiratory Failure:  Due to infection with multiple organisms
   -s/p extubation
   -continues to sat 95%, face tent off to side, using accessory muscles
   -on po methadone taper, last day tomorrow [**3-18**]
   2.  Altered Mental Status:  Good improvement. Likely [**2-26**] to sedation
   and slow recovery from infection.  Non-con Ct showed no acute bleed,
   however poor study for ischemic stroke.   Right lip droop still present
   (chronic), improvement in neuro exam, following commands, moving all 4
   limbs equally
   -CSF studies pending for cx and HSV serology
   -continue acyclovir on HD dosing empirically for HSV meningitis
   -continue methadone taper as above
   3.  Pneumonia:  Continues to be afebrile with WBC 8 today
   -continue Ceftriaxone for total of 2 weeks (last day [**3-17**])
   -d/c ceftriaxone after last dose today
   4.  HTN: continues to run high in 150's
   -medications changed to po, nitro gtt weaned off
   -on Diltiazem 90mg po qid
will increase to 120 QID
   -dilt drip off
   -add metoprolol 25 tid for better control as heart rate in 80's
   5.  PJP: On primaquine and clindamycin, steroids
   -NG tube placed yesterday and receiving primaqine po
   -continue current managment for total of 3 weeks (last day [**3-24**])
   -ID has signed off, appreciate recs
   6.  Influenza: Completed 9 day course of Oseltamivir
   7.  Anemia:  HCT pending 23.9, down 2 points today
   -will receive 1unit PRBC at HD
   -continue following HCT and transfuse <21
   -continue PPI
   8.  Leukopenia:  Resolved at 7.1 today
   -continue to monitor
   9.  Abdominal Distension:   Exam benign today, having bowel movements
   -replete electrolytes prn
   10.  Renal Failure: [**2-26**] to MM, worsened in setting of sepsis. Continues
   to be anuric.  HD not done yesterday
   -plan for HD today, with no volume removal
   -appreciate renal recs
   -medications renally dosed
   11.   Atrial Fibrillation:  Continues to be tachycardic into the 130
   during dialysis this morning
   -would increase Ca blocker to 120mg po QID
   -given high bp
s, will give trial of metoprolol with careful bp
   monitoring and titrate up as pressures tolerate
   -start heparin gtt
   12.  Multiple Myeloma: s/p IVIg per onc
   -appreciate onc recs
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication:  Wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU until adequate sustained rate control with po
   medications
   Written by [**First Name4 (NamePattern1) 113**] [**Last Name (NamePattern1) 114**], MS IV and reviewed by [**First Name8 (NamePattern2) 115**]
   [**Last Name (NamePattern1) 116**], MD

2129-03-17 11:43:00 Physician Attending Progress Note
Chief Complaint: respiratory failure (resolved), delirium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2129-3-16**] 09:22 AM
   NG tube placed
   AFib with RVR
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   pancytopenia;
   Last dose of Antibiotics:
   Acyclovir - [**2129-3-15**] 07:49 PM
   Ceftriaxone - [**2129-3-16**] 05:30 PM
   Clindamycin - [**2129-3-17**] 06:11 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2129-3-16**] 11:56 AM
   Hydralazine - [**2129-3-17**] 05:16 AM
   Diltiazem - [**2129-3-17**] 10:55 AM
   Other medications:
   SQI, primaquin, SQH, allopurinol, prednisone @ 10, Tricor, folate,
   Plavix, diltiazem 60 mg orally four times a day, PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-17**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.3
   HR: 139 (83 - 139) bpm
   BP: 162/55(81) {119/50(73) - 179/73(98)} mmHg
   RR: 12 (11 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
             Total In:
                                                                    362 mL
                                                                    425 mL
   PO:
             TF:
   IVF:
                                                                    362 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                     62 mL
                                                                    425 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.7 g/dL
   150 K/uL
   86 mg/dL
   10.1 mg/dL
   20 mEq/L
   4.6 mEq/L
   78 mg/dL
   105 mEq/L
   146 mEq/L
   23.9 %
   7.1 K/uL
         [image002.jpg]
                             [**2129-3-13**]  05:55 PM
                             [**2129-3-14**]  05:50 AM
                             [**2129-3-14**]  11:54 AM
                             [**2129-3-14**]  05:30 PM
                             [**2129-3-14**]  05:42 PM
                             [**2129-3-15**]  05:36 AM
                             [**2129-3-15**]  05:31 PM
                             [**2129-3-16**]  04:59 AM
                             [**2129-3-17**]  05:50 AM
                             [**2129-3-17**]  06:30 AM
   WBC
   3.6
   8.1
   7.6
   7.7
   8.0
   9.1
   7.1
   Hct
   23.7
   27.8
   26.3
   25.4
   25.8
   27.2
   23.9
   Plt
   180
   162
   166
   165
   162
   354
   150
   Cr
   6.8
   5.9
   7.1
   7.7
   0.9
   10.1
   TCO2
   32
   30
   31
   Glucose
   75
   110
   85
   84
   84
   72
   86
   Other labs: PT / PTT / INR:16.5/42.4/1.5, CK / CKMB /
   Troponin-T:53/2/0.13, ALT / AST:22/33, Alk Phos / T Bili:110/0.1,
   Amylase / Lipase:63/42, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:261 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:177 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.7 mg/dL, PO4:7.9 mg/dL
   Assessment and Plan
   68 y/o man s/p respiratory failure (PCP, [**Name10 (NameIs) 174**], influenza)
   complicated by ARF (now on HD), AFib with RVR, and delirium
   (improving).
 PNEUMONIA, PNEUMOCYSTIS JIROVECI (PCP, [**Name10 (NameIs) 127**] [**Name11 (NameIs) 128**]
   PNEUMONIA)
   - on clinda/primaquine for PCP
   [**Name Initial (PRE) **] tapering steroids
   - finishing ceftriaxone
   - s/p tamiflu
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   on HD per renal
 ATRIAL FIBRILLATION with RVR, difficult to control
   - increase diltiazem
   - if problem persists, we may need to ask I.R. to withdraw dialysis
   catheter somewhat
 ALTERED MENTAL STATUS
   Improving. D/C acyclovir when PCR negative
 PANCYTOPENIA
   - felt secondary to Bactrim
   - transfuse as needed to keep Hct > 21
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   - no acute therapy
 HYPERTENSION
   - increase diltiazem
   ICU Care
   Nutrition:
   Comments: Begin tube feeds. Re-eval swallow function.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2129-3-6**] 12:42 PM
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   Prophylaxis:
   DVT: Boots(begin IV heparin)
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 min
   Patient is critically ill

2129-03-18 08:11:00 Physician Resident Progress Note
Chief Complaint: 68M with myeloma admitted with respiratory distress
   found to have influenza, with sputum also with PJP and pneumococcus
   24 Hour Events:
   Increased diltiazem and added metoprolol for rate control
   Dialyzed
   Transfused with RBCs
   Started on heparin gtt
   EKG with ST depressions V4-V6, CKs negative
 EKG - At [**2129-3-17**] 10:45 AM
 MULTI LUMEN - STOP [**2129-3-17**] 06:25 PM
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   pancytopenia;
   Last dose of Antibiotics:
   Acyclovir - [**2129-3-15**] 07:49 PM
   Clindamycin - [**2129-3-17**] 06:11 AM
   Ceftriaxone - [**2129-3-17**] 05:00 PM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Diltiazem - [**2129-3-17**] 02:55 PM
   Metoprolol - [**2129-3-17**] 10:11 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-3-18**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 121 (86 - 139) bpm
   BP: 140/67(92) {124/54(72) - 171/101(104)} mmHg
   RR: 9 (7 - 22) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
             Total In:
                                                                  1,305 mL
                                                                    398 mL
   PO:
             TF:
             97 mL
   IVF:
                                                                    535 mL
                                                                    145 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,305 mL
                                                                    398 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   Gen:  Awake, responds to voice, denies pain
   Neuro: Altert, talkative, complaining, moving all 4 limbs symmetrically
   HEENT:  Cracked scab on upper lip
   CV: irregularly irregular, tachycardic
   Pulm: coarse breath sounds bilaterally,
   Abd: bowel sounds present, soft, no guarding
   Ext: minimal edema, warm, good pulses
   Labs / Radiology
   143 K/uL
   8.4 g/dL
   115 mg/dL
   9.3 mg/dL
   22 mEq/L
   4.9 mEq/L
   74 mg/dL
   101 mEq/L
   141 mEq/L
   25.1 %
   4.4 K/uL
        [image002.jpg]
   CXR no new films
   Micro
   [**3-15**] CSF NGTD
   [**3-15**] lip swab HSV cx NGTD, HSV PCR negative
                             [**2129-3-14**]  05:30 PM
                             [**2129-3-14**]  05:42 PM
                             [**2129-3-15**]  05:36 AM
                             [**2129-3-15**]  05:31 PM
                             [**2129-3-16**]  04:59 AM
                             [**2129-3-17**]  05:50 AM
                             [**2129-3-17**]  06:30 AM
                             [**2129-3-17**]  04:46 PM
                             [**2129-3-17**]  09:45 PM
                             [**2129-3-18**]  06:11 AM
   WBC
   8.1
   7.6
   7.7
   8.0
   9.1
   7.1
   6.0
   4.4
   Hct
   27.8
   26.3
   25.4
   25.8
   27.2
   23.9
   21.7
   26.1
   25.1
   Plt
   162
   166
   165
   162
   354
   150
   168
   143
   Cr
   5.9
   7.1
   7.7
   0.9
   10.1
   8.5
   9.3
   TropT
   0.16
   0.15
   TCO2
   31
   Glucose
   85
   84
   84
   72
   86
   85
   115
   Other labs: PT / PTT / INR:17.0/68.7/1.5, CK / CKMB /
   Troponin-T:156/3/0.15, ALT / AST:22/33, Alk Phos / T Bili:110/0.4,
   Amylase / Lipase:63/42, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:261 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:275 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.5 mg/dL, PO4:7.0 mg/dL
   Assessment and Plan
   68 yo M with multiple myeloma with influenza, PJP and pneumococcal PNA
   with acute renal failure on HD.
   #. Respiratory Failure:  Improving but still using accessory muscles.
   Secondary to infection with influenza, PJP and pneumococcus.
   -S/p extubation
   -sats in low-mid 90's, not complaining of SOB or CP
   -on po methadone taper, last day today of 10mg
   #.  Altered Mental Status:  Good improvement, nearly resolved. Likely
   [**2-26**] to sedation and slow recovery from infection.  Head CT on [**3-10**]
   showed no actue bleed, however poor study for ischemic stroke.
   Persistent right lip droop less prominent, and is chronic per
   discussion with family.
   -CSF negative for HSV, d/c acyclovir
   -continue methadone taper as above
   #.  Pneumonia:  Continues to be afebrile with WBC 4.4  today
   -s/p treatment with ceftriaxone for 14 days
   #.  HTN: continues to run high in 140's after Dilt 120mg po qid, 2.5
   lopressor IV prn and po metoprolol 37.5mg po tid
   -Slight improvement, BP's trending down
   -increase beta blockade to 50mg po tid for further control in setting
   of Afib
   #.  Atrial Fibrillation:
   -continue treatment as above
   -per renal, dialysis catheter unlikely to cause atrial irritation
   -per patient with translator present, asymptomatic during tachycardia
   #.  PJP: On primaquine and clindamycin, steroids all po
   -continue current managment for total of 3 weeks (last day [**3-24**])
   -ID has signed off
   #.  Influenza: Completed 9 day course of Oseltamivir
   #.  Anemia: HCT  25.1 bumped appropriately to transfusion last night.
   -continue following HCT and transfuse <21
   -continue PPI
   #.  Leukopenia:  Resolved at 4.4 today
   -continue to monitor
   #.  Renal Failure: [**2-26**] to MM, worsened in setting of sepsis. Continues
   to be anuric.  HD done yesterday with no fluid removal
   -follow up renal recs, appreciate input
   -medications renally dosed
   #..  Demand Ischemia:  Occurred in setting of Afib, ST depressions in
   V4-V6 and flipped T waves in AVR.  First set of CE remarkable for Trop
   of 0.15 (in setting of renal failure), CKs negative.
   -[**2-26**] to afib
   -will repeat EKG when rate better controlled for better study
   #.  Multiple Myeloma: s/p IVIg per onc
   -appreciate onc recs
   #. Dysphagia:  NG tube in place, getting tube feeds
   -patient asking for water
   -will get speech and swallow eval for possible po transition
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-3-18**] 12:16 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   20 Gauge - [**2129-3-17**] 03:42 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt
   Stress ulcer: PPI
   Communication: with patient with help of translator today Comments:
   Code status: Full code
   Disposition: transfer to floor
   Note written by [**First Name4 (NamePattern1) 113**] [**Last Name (NamePattern1) 114**], MS IV.
   I have reviewed note, and agree with above.  [**First Name8 (NamePattern2) 115**] [**Last Name (NamePattern1) 116**], MD

2129-03-18 10:53:00 Physician Attending Progress Note
Chief Complaint: afib with RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2129-3-17**] 10:45 AM
 MULTI LUMEN - STOP [**2129-3-17**] 06:25 PM
   Some delirium overnight.
   AFib continues.
   History obtained from Patient
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   pancytopenia;
   Last dose of Antibiotics:
   Acyclovir - [**2129-3-15**] 07:49 PM
   Clindamycin - [**2129-3-17**] 06:11 AM
   Ceftriaxone - [**2129-3-17**] 05:00 PM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Diltiazem - [**2129-3-17**] 02:55 PM
   Metoprolol - [**2129-3-17**] 10:11 PM
   Other medications:
   diltiazem, methadone taper, acyclovir, primaquine, SQI, clindmycin,
   Tricor, folate, [**Last Name (LF) **], [**First Name3 (LF) **], colace, PPI, heparin IV, sevelamer,
   diltizem 120 mg four times a day, metoprolol 37.5 mg twice a day
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-18**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 94 (93 - 136) bpm
   BP: 142/79(95) {124/54(72) - 171/101(104)} mmHg
   RR: 11 (7 - 22) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
             Total In:
                                                                  1,305 mL
                                                                    621 mL
   PO:
             TF:
             148 mL
   IVF:
                                                                    535 mL
                                                                    198 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,305 mL
                                                                    621 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 90%
   ABG: ///22/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   143 K/uL
   115 mg/dL
   9.3 mg/dL
   22 mEq/L
   4.9 mEq/L
   74 mg/dL
   101 mEq/L
   141 mEq/L
   25.1 %
   4.4 K/uL
        [image002.jpg]
                             [**2129-3-14**]  05:30 PM
                             [**2129-3-14**]  05:42 PM
                             [**2129-3-15**]  05:36 AM
                             [**2129-3-15**]  05:31 PM
                             [**2129-3-16**]  04:59 AM
                             [**2129-3-17**]  05:50 AM
                             [**2129-3-17**]  06:30 AM
                             [**2129-3-17**]  04:46 PM
                             [**2129-3-17**]  09:45 PM
                             [**2129-3-18**]  06:11 AM
   WBC
   8.1
   7.6
   7.7
   8.0
   9.1
   7.1
   6.0
   4.4
   Hct
   27.8
   26.3
   25.4
   25.8
   27.2
   23.9
   21.7
   26.1
   25.1
   Plt
   162
   166
   165
   162
   354
   150
   168
   143
   Cr
   5.9
   7.1
   7.7
   0.9
   10.1
   8.5
   9.3
   TropT
   0.16
   0.15
   TCO2
   31
   Glucose
   85
   84
   84
   72
   86
   85
   115
   Other labs: PT / PTT / INR:17.0/71.0/1.5, CK / CKMB /
   Troponin-T:156/3/0.15, ALT / AST:22/33, Alk Phos / T Bili:110/0.4,
   Amylase / Lipase:63/42, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:261 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:275 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.5 mg/dL, PO4:7.0 mg/dL
   Assessment and Plan
   68 year old man with myeloma who presented with influenza pneumonia,
   pneumococcal pneumonia, and PCP leading to respiratory failure and
   renal failure.  He now has ongoing issues of delirium (which is
   improving substantially), atrial fibrillation (now under reasonable
   control without infusions), and renal failure (on hemodialysis).
 PNEUMONIA, PNEUMOCYSTIS JIROVECI (PCP, [**Name10 (NameIs) 127**] [**Name11 (NameIs) 128**]
   PNEUMONIA)
   - continue primaquine/clinda until 2/28 per ID
   - taper steroids
 RENAL FAILURE, ACUTE --> END STAGE (END STAGE RENAL DISEASE, ESRD)
   - on HD per renal
 ATRIAL FIBRILLATION (AFIB)
   - on metoprolol and diltiazem.
   - increase metoprolol today
   - will discuss with renal about whether catheter may be triggering Afib
 PANCYTOPENIA
   felt secondary to Bactrim and possibly myeloma
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
   - completed course of ceftriaxone for Pneumococcal pneumonia
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   - no acute therapy
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   - improved per patient's wife
   - interview with interpreter later today
   - ask speech and swallow to revisit
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-3-18**] 12:16 AM 20 mL/hour
   Comments: Ask speech and swallow to revisit
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   20 Gauge - [**2129-3-17**] 03:42 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 50 min

2129-03-19 08:05:00 Physician Resident Progress Note
Chief Complaint: 68M with myeloma admit with respiratory distress dx
   with influenza, sputum also with PJP and pneumococcus
   24 Hour Events:
   Continued in afib with RVR - dialysis catheter pulled back by IR due to
   concern was irritating right atrium
   NGT removed after patient passed speech and swallow evaluation
   Had heme+ stools without gross melena or hematochezia
   Dialyzed
   Called out but onc wanted to wait concern for recurrent RVR
   After pre-rounding informed that patient more confused, pulled out IV
   Allergies:
   Flomax orhtostasis;Bactrim pancytopenia;
   Last dose of Antibiotics:
   Clindamycin - [**2129-3-17**] 06:11 AM
   Ceftriaxone - [**2129-3-17**] 05:00 PM
   Other medications:
   IV heparin, aspirin, plavix
   Clindamycin 450mg PO q6 ** not getting
   Primaquine 30mg PO daily ** not getting
   Diltiazem 120mg PO QID
   Metoprolol 50mg PO TID
   Prednisone 20mg PO daily
   Lansoprazole, sevelamer, tricor
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-3-19**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 84 (66 - 124) bpm
   BP: 158/61(85) {122/47(68) - 170/109(113)} mmHg
   RR: 15 (9 - 18) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
             Total In:
                                                                  1,162 mL
                                                                    376 mL
   PO:
                                                                     60 mL
                                                                    240 mL
   TF:
                                                                    293 mL
   IVF:
                                                                    359 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,162 mL
                                                                    376 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 94%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : L base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   136 K/uL
   7.5 g/dL
   90 mg/dL
   5.6 mg/dL
   32 mEq/L
   3.5 mEq/L
   42 mg/dL
   102 mEq/L
   141 mEq/L
   21.5 %
   4.2 K/uL
        [image002.jpg]
   Micro
   [**3-15**] CSF cx negative no other new micro data
                             [**2129-3-15**]  05:31 PM
                             [**2129-3-16**]  04:59 AM
                             [**2129-3-17**]  05:50 AM
                             [**2129-3-17**]  06:30 AM
                             [**2129-3-17**]  04:46 PM
                             [**2129-3-17**]  09:45 PM
                             [**2129-3-18**]  06:11 AM
                             [**2129-3-18**]  10:28 PM
                             [**2129-3-19**]  01:14 AM
                             [**2129-3-19**]  05:10 AM
   WBC
   7.7
   8.0
   9.1
   7.1
   6.0
   4.4
   3.8
   4.1
   4.2
   Hct
   25.4
   25.8
   27.2
   23.9
   21.7
   26.1
   25.1
   22.3
   22.6
   21.5
   Plt
   165
   162
   354
   150
   168
   143
   157
   155
   136
   Cr
   7.1
   7.7
   0.9
   10.1
   8.5
   9.3
   4.1
   5.1
   5.6
   TropT
   0.16
   0.15
   0.14
   Glucose
   84
   84
   72
   86
   85
   115
   114
   89
   90
   Other labs: PT / PTT / INR:17.6/65.7/1.6, CK / CKMB /
   Troponin-T:156/3/0.14, ALT / AST:22/33, Alk Phos / T Bili:110/0.4,
   Amylase / Lipase:63/42, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:261 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:275 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   1. Altered mental status
   Patient with increased confusion following pre-rounding today. Likely
   ICU delirium.  Consider medication effect
 e.g. prednisone. No fevers
   worrisome for new/progressive infection, studies recently negative
   including HSV PCR.  CT head on [**3-15**] without evidence of new stroke or
   hemorrhage. However, did show enlarged bifrontal fluid collections
   atrophy vs ?hygromas. In setting of other bleeding, need to rule out
   CNS hemorrhage therefore will repeat CT head today. Patient not
   cooperative with taking Zydis so will need to use prn haldol IV to
   control agitation for now. QTC will need monitoring on Haldol. Repeat
   blood cultures, check ABG and repeat vitals (patient refused O2 sat
   probe when initially assessed during rounds with team today).
   2. GI Bleeding
   Patient with heme+ stools earlier in admission, had not progresed. Now
   with small amount gross GI bleed [**Name8 (MD) **] RN with decreased Hct today.
   Is on steroids, dual antiplatelet therapy, and heparin so at clear
   elevated risk of bleeding.
   Of note, he had both EGD and colonoscopy in [**2124**] that were significant
   for mild gastritis and hiatal hernia on EGD and adenoma on colonoscopy.
   Type and screen active, would transfuse 1 unit PRBCs. Transfuse Hb<8
   and with active bleeding. Change PPI to IV BID. Stop heparin, aspirin,
   and plavix. Attempt to place 2 peripheral IVs. Consult GI regarding
   possible endoscopy.
   3. Hypoxia
   Stable, likely due to resolving pulmonary infections
 has had
   influenza, PJP, pneumococcus from sputum. Breathing comfortably on tent
   mask. s/p ceftriaxone for pneumococcus, oseltamivir for influenza B,
   and completing treatment for PJP.
   4. h/o PJP
   Initially treated with bactrim, discontinued due to concern that this
   was causing cytopenias (though unclear if sole culprit as patient had
   received cytoxan and was on beta lactams). Needs to complete 3 week
   course of steroids, primaquine, clindamycin initially scheduled to end
   [**3-24**]. Note that patient has missed doses of primaquine this week
   secondary to no oral access earlier in the week. In setting of present
   confusion not cooperative with PO medications. Need to replace NGT
   today
 else needs IV meds for PCP.
   5. Atrial fibrillation
   Rate control improved, on high dose PO diltiazem as well as metoprolol.
   Dialysis catheter was pulled back yesterday, had appeared to abut the
   RA, question whether this was causing atrial irritability leading to
   very difficult to control HR.
   6. ESRD
   Remains dialysis dependent, making little/no urine. Nephrology
   following, on sevelamer. Renal dose medications.
   7. CAD
   ST depressions on EKG in setting of RVR, cardiac enzymes flat. Likely
   demand ischemia. On beta blocker, antiplatelet agents on hold as above.
   8. Multiple myeloma
   s/p IVIG, oncology recommendations appreciated
   ICU Care
   Nutrition: NPO while possible endoscopy
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI as above
   VAP:  n/a
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2129-03-19 09:46:00 Physician Attending Progress Note
Chief Complaint: 68 yr male with recent dx of myeloma admitted with
   resp failure found to have Flu B, PCP and [**Name9 (PRE) 200**] pneumoniae
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   A fib/RVR treated with Dilt/Lopressor poor control. ? issue of dialysis
   cath irritating atrial pacer - pulled back.
   Now having melena after heparin mid week. Hx colon adenomas
   Denies Pain
   24 Hour Events:
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   pancytopenia;
   Last dose of Antibiotics:
   Clindamycin - [**2129-3-17**] 06:11 AM
   Ceftriaxone - [**2129-3-17**] 05:00 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2129-3-19**] 01:15 AM
   Other medications:
   primaquine, allopurinol, prednisone, tricor, folate, colace,
   lanzoprazole, dilt, lopressor, sevelamir
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-19**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 88 (66 - 124) bpm
   BP: 143/63(84) {122/47(68) - 170/109(113)} mmHg
   RR: 15 (9 - 18) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.6 kg (admission): 87.6 kg
   Height: 68 Inch
             Total In:
                                                                  1,162 mL
                                                                    375 mL
   PO:
                                                                     60 mL
                                                                    240 mL
   TF:
                                                                    293 mL
   IVF:
                                                                    359 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,162 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 92%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : L Base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): 3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   136 K/uL
   90 mg/dL
   5.6 mg/dL
   32 mEq/L
   3.5 mEq/L
   42 mg/dL
   102 mEq/L
   141 mEq/L
   21.5 %
   4.2 K/uL
        [image002.jpg]
                             [**2129-3-15**]  05:31 PM
                             [**2129-3-16**]  04:59 AM
                             [**2129-3-17**]  05:50 AM
                             [**2129-3-17**]  06:30 AM
                             [**2129-3-17**]  04:46 PM
                             [**2129-3-17**]  09:45 PM
                             [**2129-3-18**]  06:11 AM
                             [**2129-3-18**]  10:28 PM
                             [**2129-3-19**]  01:14 AM
                             [**2129-3-19**]  05:10 AM
   WBC
   7.7
   8.0
   9.1
   7.1
   6.0
   4.4
   3.8
   4.1
   4.2
   Hct
   25.4
   25.8
   27.2
   23.9
   21.7
   26.1
   25.1
   22.3
   22.6
   21.5
   Plt
   165
   162
   354
   150
   168
   143
   157
   155
   136
   Cr
   7.1
   7.7
   0.9
   10.1
   8.5
   9.3
   4.1
   5.1
   5.6
   TropT
   0.16
   0.15
   0.14
   Glucose
   84
   84
   72
   86
   85
   115
   114
   89
   90
   Other labs: PT / PTT / INR:17.6/65.7/1.6, CK / CKMB /
   Troponin-T:156/3/0.14, ALT / AST:22/33, Alk Phos / T Bili:110/0.4,
   Amylase / Lipase:63/42, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:261 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:275 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 PNEUMONIA, PNEUMOCYSTIS JIROVECI (PCP, [**Name10 (NameIs) 127**] [**Name11 (NameIs) 128**]
   PNEUMONIA)
       recovering, on primaquine, ceftriaxone, clinda
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   on HD
 ATRIAL FIBRILLATION (AFIB)
       rate better controlled on hi dose dilt
 PANCYTOPENIA
   felt secondary to Bactrim and possibly myeloma
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
   completing 3 week course of AB
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   IVIG no active intervention at present
 ALTERED MENTAL STATUS (NOT DELIRIUM)
       Worse this AM, has bifrontal fluid collections. Might need f/u head
   CT, ?ICU Delirium
 HYPERTENSION, BENIGN
   > GI Bleeding - heme positive prior now melena, on PPI, consult GI -
   consider colonoscopy if he continues to bleed, holding ASA, Plavix,
   Heparin
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2129-03-20 07:07:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   Had melena in AM, also pulled out an IV and so lost a good amount of
   blood
   Afternoon HCT came back at 18..(all anticoagulation had already been
   held on AM rounds given melena)
   Transfused 1 unit with appropriate bump
   Dialyzed
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   pancytopenia;
   Last dose of Antibiotics:
   Ceftriaxone - [**2129-3-17**] 05:00 PM
   Clindamycin - [**2129-3-20**] 12:06 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2129-3-19**] 11:46 AM
   Pantoprazole (Protonix) - [**2129-3-19**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-20**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 73 (67 - 89) bpm
   BP: 161/65(87) {116/45(66) - 164/72(97)} mmHg
   RR: 12 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.1 kg (admission): 87.6 kg
   Height: 68 Inch
                  Total In:
                                                                    770 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                    155 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -730 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Other
   SpO2: 99%
   ABG: ///34/
   Physical Examination
   Sleeping, wakes easily, calm and cooperative.
   Face mask on
   S1, S2, RRR, no murmur
   Lungs clear to auscultation b/l, not using accessory muscles
   Abd soft, NT, ND
   LE without edema, DP +2 b/l
   Labs / Radiology
   146 K/uL
   7.6 g/dL
   96 mg/dL
   5.2 mg/dL
   34 mEq/L
   4.4 mEq/L
   36 mg/dL
   101 mEq/L
   144 mEq/L
   23.0 %
   4.1 K/uL
        [image002.jpg]
                             [**2129-3-17**]  06:30 AM
                             [**2129-3-17**]  04:46 PM
                             [**2129-3-17**]  09:45 PM
                             [**2129-3-18**]  06:11 AM
                             [**2129-3-18**]  10:28 PM
                             [**2129-3-19**]  01:14 AM
                             [**2129-3-19**]  05:10 AM
                             [**2129-3-19**]  11:15 AM
                             [**2129-3-19**]  07:30 PM
                             [**2129-3-20**]  05:45 AM
   WBC
   7.1
   6.0
   4.4
   3.8
   4.1
   4.2
   4.1
   Hct
   23.9
   21.7
   26.1
   25.1
   22.3
   22.6
   21.5
   18.1
   22.7
   23.0
   Plt
   150
   168
   143
   157
   155
   136
   146
   Cr
   10.1
   8.5
   9.3
   4.1
   5.1
   5.6
   5.2
   TropT
   0.16
   0.15
   0.14
   Glucose
   86
   85
   115
   114
   89
   90
   96
   Other labs: PT / PTT / INR:18.5/35.4/1.7, CK / CKMB /
   Troponin-T:156/3/0.14, ALT / AST:22/33, Alk Phos / T Bili:110/0.4,
   Amylase / Lipase:63/42, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:261 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:275 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Micro:
   Lip Swab [**3-15**]:
VIRAL CULTURE: R/O HERPES SIMPLEX VIRUS (Preliminary):
         No Virus isolated so far.
   H. pylori pending
   Imaging:
   CT head [**3-19**]:
   No evidence for intracranial hemorrhage or bleed.  The extra-
   axial collections mentioned on the prior CT are either prominent CSF sp
   aces
   secondary to atrophy, or less likely hygromas.  If hygromas, this would
    be of
   a very chronic nature unrelated to current altered mental status.
   Assessment and Plan
   68yo gentleman with myeloma admitted with respiratory failure in the
   setting of multiple infections.
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Hct stable after transfusion, but continues to have large amount of
   black stool in his rectal tube.
   -          continue to hold ASA, plavix, and heparin gtt
   -          follow TID Hct and transfuse for Hct < 21; active type and
   screen
   -          obtain better PIV access
   -          initial drop to 18 in setting of significant bleed from
   pulled peripheral IV [**3-19**]
   -          GI recs appreciated
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Head CT negative, infectious work-up negative.  Most likely from
   disorientation during acute illness in unfamiliar setting with language
   barrier.
   Much improved this morning, alert and cooperative.
   -          QTc 430 (got haldol yesterday)
   -          Monitor mental status today, orient with family present
   # Respiratory Distress:  In setting of PCP, [**Name10 (NameIs) 134**], and pneumococal
   pneumonia.
   -          s/p treatment with tamiflu and ceftriaxone
   -          continue steroid, primaquine, and clindamycin for total 3
   weeks (last day [**3-24**])
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   on HD
   -          s/p HD [**3-19**]
   -          continue sevelamer
   -          appreciate renal recs
 ATRIAL FIBRILLATION (AFIB)
   Improved rate control now that dialysis catheter pulled back.
   -          continue diltiazem and metoprolol PO
   -          no anticoagulation in setting of ongoing bleed
 PANCYTOPENIA
   felt secondary to Bactrim and possibly myeloma
   -          counts stable, monitor
   # CAD:
   Has had ST depressions in setting of rapid rate.  Cardiac enzymes
   negative (troponin not useful in setting of renal failure).
   -          likely demand ischemia, not coronary plaque
   -          on beta blocker
   -          holding ASA, plavix in setting of GI bleed
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   -          s/p IV Ig
   -          appreciate oncology input
 HYPERTENSION, BENIGN
   -          continue diltiazem and metoprolol
   ICU Care
   Nutrition: will discuss with GI, but suspect patient can be put back on
   diet today
   Glycemic Control:  SSI with good sugar control
   Lines:
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   20 Gauge - [**2129-3-19**] 06:00 PM
   Prophylaxis:
   DVT: pneumoboots, start subQ heparin
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: callout to floor

2129-03-20 11:16:00 Physician Attending Progress Note
Chief Complaint: 68 yr male with flu, PCP, [**Name10 (NameIs) 200**] pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Blood loss from self-pulling lines, tranfused, dialyzed
   Hct 23 in PM
   Agitation improved
   24 Hour Events:
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   pancytopenia;
   Last dose of Antibiotics:
   Ceftriaxone - [**2129-3-17**] 05:00 PM
   Clindamycin - [**2129-3-20**] 12:06 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2129-3-19**] 11:46 AM
   Pantoprazole (Protonix) - [**2129-3-19**] 08:00 PM
   Other medications:
   primaquine, allopurinol, pred 20 daily, tricor, folate, colace, dilt
   120, lopressor 50
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-20**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.3
   HR: 76 (67 - 89) bpm
   BP: 145/63(83) {126/45(66) - 164/72(97)} mmHg
   RR: 11 (10 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.1 kg (admission): 87.6 kg
   Height: 68 Inch
                  Total In:
                                                                    770 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                    155 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -730 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ? Language, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   7.6 g/dL
   146 K/uL
   96 mg/dL
   5.2 mg/dL
   34 mEq/L
   4.4 mEq/L
   36 mg/dL
   101 mEq/L
   144 mEq/L
   23.0 %
   4.1 K/uL
        [image002.jpg]
                             [**2129-3-17**]  06:30 AM
                             [**2129-3-17**]  04:46 PM
                             [**2129-3-17**]  09:45 PM
                             [**2129-3-18**]  06:11 AM
                             [**2129-3-18**]  10:28 PM
                             [**2129-3-19**]  01:14 AM
                             [**2129-3-19**]  05:10 AM
                             [**2129-3-19**]  11:15 AM
                             [**2129-3-19**]  07:30 PM
                             [**2129-3-20**]  05:45 AM
   WBC
   7.1
   6.0
   4.4
   3.8
   4.1
   4.2
   4.1
   Hct
   23.9
   21.7
   26.1
   25.1
   22.3
   22.6
   21.5
   18.1
   22.7
   23.0
   Plt
   150
   168
   143
   157
   155
   136
   146
   Cr
   10.1
   8.5
   9.3
   4.1
   5.1
   5.6
   5.2
   TropT
   0.16
   0.15
   0.14
   Glucose
   86
   85
   115
   114
   89
   90
   96
   Other labs: PT / PTT / INR:18.5/35.4/1.7, CK / CKMB /
   Troponin-T:156/3/0.14, ALT / AST:22/33, Alk Phos / T Bili:110/0.4,
   Amylase / Lipase:63/42, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:261 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:275 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Imaging: Head CT - negative for bleed, unchanged
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Continues to have melena, Hct up after 1 unit, follow q 8h, rediscuss
   intervention with GI
 PNEUMONIA, PNEUMOCYSTIS JIROVECI (PCP, [**Name10 (NameIs) 127**] [**Name11 (NameIs) 128**]
   PNEUMONIA)
   Primquin, ceftriax, clinda
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   on HD, sevelamir
 ATRIAL FIBRILLATION (AFIB)
   Good rate control
 PANCYTOPENIA
   felt secondary to Bactrim and possibly myeloma
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
   Ceftriax, Clinda
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   Per oncology
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Improved off steroids, post dialysis
 HYPERTENSION, BENIGN
   Lopressor 50
   ICU Care
   Nutrition:
   Comments: NPO until GI clears
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2129-3-10**] 12:00 AM
   20 Gauge - [**2129-3-19**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes
   Patient is critically ill